2164-10-14 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2164-10-14**] 01:23 AM
 EKG - At [**2164-10-14**] 02:21 AM
   Ectopy on tracing - bigeminy.  Likely secondary to electrolytes.
   Repleted, tracing normalized.  Otherwise stable, reports pain in R
   lower leg.
   Ortho this morning says that she may go for surgery today
 will keep
   NPO for now until we know further details.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2164-10-14**] 06:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-14**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 70 (65 - 101) bpm
   BP: 137/67(81) {133/59(73) - 175/89(104)} mmHg
   RR: 16 (11 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    718 mL
                                                                  1,278 mL
   PO:
             200 mL
   TF:
   IVF:
                                                                     18 mL
                                                                  1,078 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    255 mL
   Urine:
                                                                    400 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    318 mL
                                                                  1,024 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///45/
   Physical Examination
   Alert, oriented, comfortable, NAD
   Lungs with markedly decreased BS bilaterally, minimal volumes with
   accessory muscle use.
   RRR, no audible murmurs.
   Abdomen scaphoid, soft, non-tender
   2+ distal pulses
   Labs / Radiology
   148 K/uL
   8.6 g/dL
   130 mg/dL
   0.7 mg/dL
   45 mEq/L
   3.4 mEq/L
   20 mg/dL
   88 mEq/L
   142 mEq/L
   28.0 %
   7.6 K/uL
        [image002.jpg]
                             [**2164-10-14**]  01:10 AM
   WBC
   7.6
   Hct
   28.0
   Plt
   148
   Cr
   0.7
   Glucose
   130
   Other labs: PT / PTT / INR:13.4/23.9/1.1, Ca++:8.8 mg/dL, Mg++:1.9
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 MALNUTRITION
 RESPIRATORY FAILURE, CHRONIC
 FRACTURE, OTHER
   1. Respiratory Status: reports dyspnea, but no change from her
   baseline.  "I'm always like this."
   - albuterol, ipratropium nebs standing q6H
   - albuterol nebs q2 PRN, ipratropium nebs q6H prn
   - budesonide nebs [**Hospital1 **]
   -no systemic steroids
   - continue O2 with goal oxygenation of 88-90% given chronic CO2
   retention
   - will attempt to obtain outside records for PFTs and medications
   .
   2. Femur Fracture: Likely secondary to osteoporosis and possibly from
   prior steroid use.  Unclear why she is not on calcium and vit D and/or
   bisphosphonate.
   - will discuss with PCP
   [**Name Initial (PRE) **] definitive plans per ortho team, possible surgery today or tomorrow
   - will prophylaxis with SC heparin at lower dose ([**Hospital1 **]) for DVTs
   - morphine PRN for pain
   - hold plavix in anticipation of surgery (unclear etiology)
   .
   3. Ectopy on ECG: likely secondary to low electrolytes. Pt received
   20meq IV K+ in ED.
   - KCl 40meq given overnight
   - will continue to follow electrolytes
   .
   4. Anemia: unclear etiology
   - check iron studies, B12, folate
   .
   5. HTN: continue carvedilol, lasix
   .
   6. Appetite: continue [**Last Name (LF) 7995**], [**First Name3 (LF) 124**] continue carbamezepine,
   amitriptyline
   .
   7. FEN: IVF at 75ml/hr, replete electrolytes, regular diet with ensure
   supplements.
   - low UOP overnight, will continue to follow, bolus if needed
   .
   8. Prophylaxis: Subcutaneous heparin at lower dose (5,000 units [**Hospital1 **])
   .
   9 Access: peripherals
   .
   10. Code: Full, confirmed with patient
   .
   11. Dispo: ICU for now
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-10-13**] 11:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-10-15 08:55:00 Physician Attending Progress Note
Chief Complaint: Hypercarbic/hypoxemic respiratory failure
   s/p hip fracture
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Intubated overnight for hypercarbic respiratory failure
   Hypotension post-intubation -> requiring dopa/neo
   Central line and a-line placed
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2164-10-15**] 12:00 AM
 NON-INVASIVE VENTILATION - STOP [**2164-10-15**] 04:00 AM
 INVASIVE VENTILATION - START [**2164-10-15**] 04:00 AM
 MULTI LUMEN - START [**2164-10-15**] 05:01 AM
 ARTERIAL LINE - START [**2164-10-15**] 05:42 AM
 MULTI LUMEN - START [**2164-10-15**] 05:42 AM
   History obtained from icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 10 mcg/Kg/min
   Fentanyl (Concentrate) - 30 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2164-10-14**] 05:45 PM
   Midazolam (Versed) - [**2164-10-15**] 03:55 AM
   Fentanyl - [**2164-10-15**] 03:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-10-15**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.6
   HR: 71 (66 - 85) bpm
   BP: 104/58(74) {76/48(59) - 104/58(74)} mmHg
   RR: 20 (11 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  3,536 mL
                                                                  2,225 mL
   PO:
                                                                    620 mL
             TF:
   IVF:
                                                                  2,916 mL
                                                                  2,225 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    155 mL
   Urine:
                                                                    600 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,936 mL
                                                                  2,070 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 560 (560 - 560) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 40 cmH2O
   Plateau: 24 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.33/70/66/39/7
   Ve: 7.8 L/min
   PaO2 / FiO2: 189
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   104 K/uL
   117 mg/dL
   0.6 mg/dL
   39 mEq/L
   4.0 mEq/L
   19 mg/dL
   102 mEq/L
   146 mEq/L
   24.8 %
   4.6 K/uL
        [image002.jpg]
                             [**2164-10-14**]  01:10 AM
                             [**2164-10-15**]  12:16 AM
                             [**2164-10-15**]  01:34 AM
                             [**2164-10-15**]  01:55 AM
                             [**2164-10-15**]  05:05 AM
                             [**2164-10-15**]  06:49 AM
   WBC
   7.6
   4.6
   Hct
   28.0
   24.8
   Plt
   148
   104
   Cr
   0.7
   0.6
   TCO2
   50
   49
   39
   39
   Glucose
   130
   117
   Other labs: PT / PTT / INR:12.1/27.6/1.0, Lactic Acid:0.5 mmol/L,
   Albumin:3.9 g/dL, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   55 yo woman with COPD, respiratory failure in setting of R femur
   fracture
   Respiratory Failure/COPD: Now intubated.  Continue current vent
   management, bronchodilators
   Hypotension: Will give some more volume.  Check CVP.
   Hypernatremia: Will give free water
   Right Hip fracture: will touch base with ortho, possibly to OR today
   Pain:  Will try to limit respiratory depressants if possible
   Anemia: Continue to trend
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-10-14**] 02:59 PM
   Arterial Line - [**2164-10-15**] 05:42 AM
   Multi Lumen - [**2164-10-15**] 05:42 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40
   Patient is critically ill

2164-10-16 06:57:00 Physician Resident Progress Note
Chief Complaint: 55F c COPD and MS, and recent admission to [**Hospital1 **], p/w resp distress and femur fracture
   24 Hour Events:
 FEVER - 101.5
F - [**2164-10-15**] 04:00 PM
   -lost aline and placed new L aline
   -TF started, npo at midnight for OR
   -got OSH records which showed that pt had recent NSTEMI in [**7-24**] and
   also has h/o cardiomyopathy c EF of 20% but recent TTE in [**7-24**] shows EF
   of 65%. Of note pt does also have h/o anorexia as well. OSH records in
   chart. Did let ortho know about this
   -will need to contact pcp for more info
   -to OR today per ortho @9:30a
   -brother called to inform that pt to OR tomorrow at 9:30a
   -spiked to 100.7, pan cultured. Sp cx c GPCs and >25 pmns. pt started
   on vanc.
   -dopamine d/ced. Pt was then hypertensive to 180s/90s for several
   hours. Gave pt 10 of metop and pressures dropped to 80-90s/40s.
   Standing carvedilol was d/ced. Concerned that labile bp's could be [**3-19**]
   ischemia, got ekg which looked same as priors (inflat q waves) and trop
   which were neg. Also ordered TTE
   -ETT tube pushed in 2cm, still far above [**Female First Name (un) 5906**]....
   -hct of 22 at 3am, will transfuse x1 unit, esp now in setting of recent
   nstemi
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-15**] 10:59 PM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2164-10-15**] 09:35 PM
   Heparin Sodium (Prophylaxis) - [**2164-10-16**] 12:20 AM
   Fentanyl - [**2164-10-16**] 05:02 AM
   Midazolam (Versed) - [**2164-10-16**] 05:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-16**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.2
C (99
   HR: 72 (68 - 94) bpm
   BP: 143/87(104) {94/51(67) - 189/96(347)} mmHg
   RR: 20 (18 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 10 (8 - 12)mmHg
   Total In:
                                                                  4,811 mL
                                                                    653 mL
   PO:
   TF:
                                                                     88 mL
                                                                      7 mL
   IVF:
                                                                  4,673 mL
                                                                    221 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    660 mL
                                                                    175 mL
   Urine:
                                                                    660 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,151 mL
                                                                    478 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 22 cmH2O
   Plateau: 12 cmH2O
   Compliance: 80 cmH2O/mL
   SpO2: 98%
   ABG: 7.37/59/116/34/7
   Ve: 7.8 L/min
   PaO2 / FiO2: 331
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   89 K/uL
   6.7 g/dL
   98 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.8 mEq/L
   18 mg/dL
   104 mEq/L
   142 mEq/L
   22.0 %
   5.4 K/uL
        [image002.jpg]
                             [**2164-10-15**]  01:34 AM
                             [**2164-10-15**]  01:55 AM
                             [**2164-10-15**]  05:05 AM
                             [**2164-10-15**]  06:49 AM
                             [**2164-10-15**]  04:31 PM
                             [**2164-10-15**]  04:55 PM
                             [**2164-10-15**]  08:43 PM
                             [**2164-10-15**]  09:16 PM
                             [**2164-10-16**]  01:59 AM
                             [**2164-10-16**]  02:12 AM
   WBC
   4.6
   6.8
   5.4
   Hct
   24.8
   24.5
   23
   22.0
   Plt
   104
   108
   89
   Cr
   0.6
   0.6
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   49
   39
   39
   38
   35
   35
   Glucose
   117
   74
   98
   Other labs: PT / PTT / INR:12.1/28.1/1.0, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:0.6 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 MALNUTRITION
 RESPIRATORY FAILURE, CHRONIC
 FRACTURE, OTHER
   55 F with history of severe COPD presents with R femur fracture and
   hypoxic hypercarbic respiratory distress, intubated, on pressors for
   hypotension.
    # Respiratory failure: etiology unclear, COPD is likely [**Year (4 digits) 8646**]
   but unclear if this is the underlying etiology of resp failure,
   neuromuscular weakness 2/2 MS [**First Name (Titles) **] [**Last Name (Titles) 8646**] to this picture. Brother
   does note significant decline in respiratory status over the last
   month. The patient had increasing work of breathing with associated
   hypercarbia, which she appeared to also have at [**Hospital1 **] in [**Month (only) 1646**] when she
   was admitted c abd pain and found to have nstemi
   - Sedation fentanyl and versed
   - Vent settings with ABGs
   - Contact PCPs office (Dr. [**First Name (STitle) 488**] [**Telephone/Fax (1) 8624**]) to determine baseline
   functional status, PFTs
   - Albuterol, ipratropium MDI q6h
   - Albuterol q2 PRN, ipratropium q6h PRN
   - No systemic steroids at this time, continue to monitor clinical
   status
   - O2 gaol oxygenation 88-90 percent given chronic CO2 retention
   .
   # Labile Blood Pressures: pt initially hypotensive s/p intubation and
   started on dopamine This was d/ced as pt became normotensive yesterday.
   However, pt then proceeded to be hypertensive c pressures in the 180s
   for several hours. After receiving 10 of metoprolol became hypotensive
   again and req fluid bolus, eventually became normotensive again.
   - dopamine d/ced
   -carvedilol d/ced
   - continue to trend. has had sbps  in 120s-140s recently
   - check TTE
   .
   # Femur Fracture: likely secondary to osteoporosis. Patient was started
   on calcium and vit D.
   - f/u ortho surgery recs
   - SC heparin [**Hospital1 **] for DVTs
   - Holding plavix (contact PCP to figure out why on plavix)
   .
   #low grade fevers c tmax 101.5. Pt was pancultured and found to have
   2+GPCs on gram stain of sputum
   -added vanc (though pt's cxr does not have obvious infiltrate)
   -f/u sputum cx, blood cx, urine cx
   .
   # Anemia: unclear etiology, iron, B12 and folate sent. hct at [**Hospital1 **]
   [**7-24**] ago was 37. Very concerning for bleeding into her RP space.
   - to OR
   - iron, tibc, ferritin, b12 and folate all wnl
   - Trend daily CBC
   - guaiac stools
   .
   # FEN: Needed multiple IVF boluses, replete electrolytes
   - Change meds over to NG
   - nutrition consult
   - NPO for surgery
   - If extubated continue remeron, carbamezepine, amitriptyline
   - UOP > 30
   .
   # Prophylaxis: SC heparin at 5000 units [**Hospital1 **]
   # Access: a-line, triple lumen R IJ, peripherals
   # Brother is health care proxy
   # Full Code
   # ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-10-14**] 02:59 PM
   Multi Lumen - [**2164-10-15**] 05:42 AM
   Arterial Line - [**2164-10-15**] 02:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-10-16 09:04:00 Physician Attending Progress Note
Chief Complaint: Repiratory Failure, hip fracture
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   A-line placed yesterday
   Dopamine came off yesterday, followed by hypertension
   BP then dropped to 80s with 10mg iv metoprolol --> now normotensive
   Fever to 100.7
   Got 1 unit pRBCs, now getting 2nd
   24 Hour Events:
 ARTERIAL LINE - STOP [**2164-10-15**] 12:30 PM
 ARTERIAL LINE - START [**2164-10-15**] 02:15 PM
 EKG - At [**2164-10-15**] 10:51 PM
 FEVER - 101.5
F - [**2164-10-15**] 04:00 PM
   History obtained from icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-16**] 08:08 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2164-10-15**] 09:35 PM
   Heparin Sodium (Prophylaxis) - [**2164-10-16**] 12:20 AM
   Fentanyl - [**2164-10-16**] 05:02 AM
   Midazolam (Versed) - [**2164-10-16**] 05:03 AM
   Other medications:
   per resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-10-16**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.6
C (99.7
   HR: 73 (72 - 94) bpm
   BP: 152/70(98) {94/51(67) - 189/96(347)} mmHg
   RR: 20 (18 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 6 (5 - 12)mmHg
   Total In:
                                                                  4,811 mL
                                                                    881 mL
   PO:
   TF:
                                                                     88 mL
                                                                      7 mL
   IVF:
                                                                  4,673 mL
                                                                    449 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    660 mL
                                                                    245 mL
   Urine:
                                                                    660 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,151 mL
                                                                    636 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/59/116/34/7
   Ve: 7.9 L/min
   PaO2 / FiO2: 331
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.7 g/dL
   89 K/uL
   98 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.8 mEq/L
   18 mg/dL
   104 mEq/L
   142 mEq/L
   22.0 %
   5.4 K/uL
        [image002.jpg]
                             [**2164-10-15**]  01:34 AM
                             [**2164-10-15**]  01:55 AM
                             [**2164-10-15**]  05:05 AM
                             [**2164-10-15**]  06:49 AM
                             [**2164-10-15**]  04:31 PM
                             [**2164-10-15**]  04:55 PM
                             [**2164-10-15**]  08:43 PM
                             [**2164-10-15**]  09:16 PM
                             [**2164-10-16**]  01:59 AM
                             [**2164-10-16**]  02:12 AM
   WBC
   4.6
   6.8
   5.4
   Hct
   24.8
   24.5
   23
   22.0
   Plt
   104
   108
   89
   Cr
   0.6
   0.6
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   49
   39
   39
   38
   35
   35
   Glucose
   117
   74
   98
   Other labs: PT / PTT / INR:12.1/28.1/1.0, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:0.6 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   55 yo woman with COPD, respiratory failure in setting of R femur
   fracture
   Respiratory Failure/COPD: Decrease RR to allow for more time to exhale.
   Hypotension: Now normotensive - will also continue to hold home
   antihypertensives.  TTE today
   Hypernatremia: Improving
   Right Hip fracture: to OR today
   Anemia: s/p 2 units pRBCs
   ICU Care
   Nutrition:
   Comments: Tube feeds off
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-10-14**] 02:59 PM
   Multi Lumen - [**2164-10-15**] 05:42 AM
   Arterial Line - [**2164-10-15**] 02:15 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2164-10-16 09:06:00 Physician Resident Progress Note
Chief Complaint: 55F c COPD and MS, and recent admission to [**Hospital1 **], p/w resp distress and femur fracture
   24 Hour Events:
 FEVER - 101.5
F - [**2164-10-15**] 04:00 PM
   -lost aline and placed new L aline
   -TF started, npo at midnight for OR
   -got OSH records which showed that pt had recent NSTEMI in [**7-24**] and
   also has h/o cardiomyopathy c EF of 20% but recent TTE in [**7-24**] shows EF
   of 65%. Of note pt does also have h/o anorexia as well. OSH records in
   chart. Did let ortho know about this
   -will need to contact pcp for more info
   -to OR today per ortho @9:30a
   -brother called to inform that pt to OR tomorrow at 9:30a
   -spiked to 100.7, pan cultured. Sp cx c GPCs and >25 pmns. pt started
   on vanc.
   -dopamine d/ced. Pt was then hypertensive to 180s/90s for several
   hours. Gave pt 10 of metop and pressures dropped to 80-90s/40s.
   Standing carvedilol was d/ced. Concerned that labile bp's could be [**3-19**]
   ischemia, got ekg which looked same as priors (inflat q waves) and trop
   which were neg. Also ordered TTE
   -ETT tube pushed in 2cm, still far above [**Female First Name (un) 5906**]....
   -hct of 22 at 3am, will transfuse x2 unit, esp now in setting of recent
   nstemi, pre-op
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-15**] 10:59 PM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2164-10-15**] 09:35 PM
   Heparin Sodium (Prophylaxis) - [**2164-10-16**] 12:20 AM
   Fentanyl - [**2164-10-16**] 05:02 AM
   Midazolam (Versed) - [**2164-10-16**] 05:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-16**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.2
C (99
   HR: 72 (68 - 94) bpm
   BP: 143/87(104) {94/51(67) - 189/96(347)} mmHg
   RR: 20 (18 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 10 (8 - 12)mmHg
   Total In:
                                                                  4,811 mL
                                                                    653 mL
   PO:
   TF:
                                                                     88 mL
                                                                      7 mL
   IVF:
                                                                  4,673 mL
                                                                    221 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    660 mL
                                                                    175 mL
   Urine:
                                                                    660 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,151 mL
                                                                    478 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 22 cmH2O
   Plateau: 12 cmH2O
   Compliance: 80 cmH2O/mL
   SpO2: 98%
   ABG: 7.37/59/116/34/7
   Ve: 7.8 L/min
   PaO2 / FiO2: 331
   Physical Examination
   Intubated, sedated but arousable
   Pupils unequal R>L
   RRR
   Decreased breath sounds diffusely
   Abdomen fim, but not tense, not distended.
   +Distal pulses
   No peripheral edema
   Labs / Radiology
   89 K/uL
   6.7 g/dL
   98 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.8 mEq/L
   18 mg/dL
   104 mEq/L
   142 mEq/L
   22.0 %
   5.4 K/uL
        [image002.jpg]
                             [**2164-10-15**]  01:34 AM
                             [**2164-10-15**]  01:55 AM
                             [**2164-10-15**]  05:05 AM
                             [**2164-10-15**]  06:49 AM
                             [**2164-10-15**]  04:31 PM
                             [**2164-10-15**]  04:55 PM
                             [**2164-10-15**]  08:43 PM
                             [**2164-10-15**]  09:16 PM
                             [**2164-10-16**]  01:59 AM
                             [**2164-10-16**]  02:12 AM
   WBC
   4.6
   6.8
   5.4
   Hct
   24.8
   24.5
   23
   22.0
   Plt
   104
   108
   89
   Cr
   0.6
   0.6
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   49
   39
   39
   38
   35
   35
   Glucose
   117
   74
   98
   Other labs: PT / PTT / INR:12.1/28.1/1.0, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:0.6 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 MALNUTRITION
 RESPIRATORY FAILURE, CHRONIC
 FRACTURE, OTHER
   55 F with history of severe COPD presents with R femur fracture and
   hypoxic hypercarbic respiratory distress, intubated, on pressors for
   hypotension.
    # Respiratory failure: etiology unclear, COPD is likely [**Year (4 digits) 8646**]
   but unclear if this is the underlying etiology of resp failure,
   neuromuscular weakness 2/2 MS [**First Name (Titles) **] [**Last Name (Titles) 8646**] to this picture. Brother
   does note significant decline in respiratory status over the last
   month. The patient had increasing work of breathing with associated
   hypercarbia, which she appeared to also have at [**Hospital1 **] in [**Month (only) 1646**] when she
   was admitted c abd pain and found to have nstemi.
   - Decrease resp rate to allow more time for exhalation
   - Sedation fentanyl and versed
   - Vent settings with ABGs
   - Contact PCPs office (Dr. [**First Name (STitle) 488**] [**Telephone/Fax (1) 8624**]) to determine baseline
   functional status, PFTs
   - Albuterol, ipratropium MDI q6h
   - Albuterol q2 PRN, ipratropium q6h PRN
   - No systemic steroids at this time, continue to monitor clinical
   status
   - goal oxygenation 88-90 percent given chronic CO2 retention
   - continue vancomycin day 1 (Gram+ gram stain from sputum)
 will
   follow culture results, DC if negative.
   # Labile Blood Pressures: pt initially hypotensive s/p intubation and
   started on dopamine This was d/ced as pt became normotensive yesterday.
   However, pt then proceeded to be hypertensive c pressures in the 180s
   for several hours. After receiving 10 of metoprolol became hypotensive
   again and req fluid bolus, eventually became normotensive again.
   - dopamine d/ced
   - carvedilol d/ced
   - continue to trend blood pressures. has had sbps  in 120s-140s
   recently
   - check TTE
 history of cardiomyopathy
 reported recent normal EF,
   but want to confirm.
   - 12.5 PO metoprolol now, before going to OR.
   .
   # Femur Fracture: likely secondary to osteoporosis. Patient was started
   on calcium and vit D.
   - f/u ortho surgery recs
   - SC heparin [**Hospital1 **] for DVTs
   - Holding plavix (contact PCP to figure out why on plavix)
   - transfuse to HCT 30, per ortho recs
   .
   #low grade fevers c tmax 101.5. Pt was pancultured and found to have
   2+GPCs on gram stain of sputum
   -added vanc (though pt's cxr does not have obvious infiltrate)
   -f/u sputum cx, blood cx, urine cx
   -Tylenol for fevers
   .
   # Anemia: unclear etiology, iron, B12 and folate sent. hct at [**Hospital1 **]
   [**7-24**] ago was 37. Very concerning for bleeding into her RP space.
   - to OR
   - iron, tibc, ferritin, b12 and folate all wnl
   - Trend daily CBC
   - guaiac stools
   - lower platelets noted, will continue to follow closely.
   .
   #decreased plts: 150
   -will continue sc heparin
   -will trend
   .
   # FEN: Needed multiple IVF boluses, replete electrolytes
   - Change meds over to NG
   - nutrition consult
   - NPO for surgery
   - If extubated continue remeron, carbamezepine, amitriptyline
   - UOP > 30
   .
   # Prophylaxis: SQ heparin [**Hospital1 **]
   # Access: a-line, triple lumen R IJ, peripherals
   # Brother is health care proxy
   # Full Code
   # ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-10-14**] 02:59 PM
   Multi Lumen - [**2164-10-15**] 05:42 AM
   Arterial Line - [**2164-10-15**] 02:15 PM
   Prophylaxis:
   DVT:  SQ heparin
   Stress ulcer:   H2 blocker
   VAP:  HOB elevation
   Comments:
   Communication:  Comments:  communicated with brother
   [**Name (NI) 156**] status: Full code
   Disposition:  ICU

2164-10-17 10:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, hip fracture
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Fever to 101.1 this AM
   Went to OR yesterday for ORIF
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2164-10-16**] 09:43 AM
 ARTERIAL LINE - STOP [**2164-10-16**] 03:30 PM
 OR SENT - At [**2164-10-16**] 04:15 PM
 ARTERIAL LINE - START [**2164-10-16**] 06:44 PM
 MULTI LUMEN - STOP [**2164-10-17**] 12:01 AM
 SPUTUM CULTURE - At [**2164-10-17**] 05:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2164-10-17**] 05:47 AM
   Vancomycin - [**2164-10-17**] 09:31 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2164-10-17**] 04:53 AM
   Fentanyl - [**2164-10-17**] 04:53 AM
   Enoxaparin (Lovenox) - [**2164-10-17**] 08:04 AM
   Famotidine (Pepcid) - [**2164-10-17**] 09:04 AM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-10-17**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 82 (58 - 88) bpm
   BP: 82/44(59) {82/44(59) - 203/135(142)} mmHg
   RR: 18 (16 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 15 (4 - 18)mmHg
   Total In:
                                                                  2,071 mL
                                                                  1,356 mL
   PO:
   TF:
                                                                      7 mL
   IVF:
                                                                  1,264 mL
                                                                  1,166 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    623 mL
                                                                    315 mL
   Urine:
                                                                    583 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,448 mL
                                                                  1,041 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 66
   PIP: 37 cmH2O
   Plateau: 30 cmH2O
   SpO2: 96%
   ABG: 7.37/60/99.[**Numeric Identifier 299**]/34/6
   Ve: 7.9 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   distant)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   89 K/uL
   104 mg/dL
   0.5 mg/dL
   34 mEq/L
   4.0 mEq/L
   19 mg/dL
   105 mEq/L
   142 mEq/L
   27.6 %
   5.2 K/uL
        [image002.jpg]
                             [**2164-10-16**]  01:59 AM
                             [**2164-10-16**]  02:12 AM
                             [**2164-10-16**]  08:21 AM
                             [**2164-10-16**]  10:20 AM
                             [**2164-10-16**]  11:25 AM
                             [**2164-10-16**]  07:04 PM
                             [**2164-10-16**]  07:24 PM
                             [**2164-10-17**]  01:32 AM
                             [**2164-10-17**]  01:43 AM
                             [**2164-10-17**]  04:23 AM
   WBC
   5.4
   6.1
   6.7
   5.5
   5.2
   Hct
   22.0
   24.2
   30.0
   28.3
   25.9
   27.6
   Plt
   89
   101
   99
   102
   89
   Cr
   0.5
   0.5
   0.5
   TropT
   <0.01
   TCO2
   35
   36
   35
   36
   Glucose
   98
   102
   104
   Other labs: PT / PTT / INR:12.1/28.1/1.0, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   55 yo woman with COPD, respiratory failure in setting of R femur
   fracture, s/p ORIF
   Respiratory Failure/COPD: Pt not breathing when switched to PSV on
   rounds - will decrease RR and allow pCO2 to equilabrate.  Does have
   fevers with organisms on sputum gram stain - cont vanc, add Zosyn.
   Awaiting sputum culture
   Hypotension: Blood pressure reamins labile - holding antihypertensive.
   Right Hip fracture: s/p ORIF
   Anemia: Hct stable
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-15**] 05:42 AM
   Arterial Line - [**2164-10-16**] 06:44 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2164-10-18 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2164-10-17**] 09:32 AM
 URINE CULTURE - At [**2164-10-17**] 02:19 PM
 FEVER - 101.1
F - [**2164-10-17**] 08:00 AM
   -Transitioned to pressure support [**9-19**]. ABG: 7.35/61/90/35; tolerated
   well, however in evening tired and switched to assist control
   -Received 500cc bolus for low UOP
   -ID recommended changing from zosyn to cefepime/cipro. Currently on
   cefepime, cipro, and vancomycin.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2164-10-17**] 05:47 AM
   Vancomycin - [**2164-10-17**] 08:00 PM
   Cefipime - [**2164-10-18**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2164-10-17**] 08:04 AM
   Famotidine (Pepcid) - [**2164-10-17**] 08:00 PM
   Midazolam (Versed) - [**2164-10-17**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-18**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.3
C (97.4
   HR: 72 (66 - 86) bpm
   BP: 144/63(91) {74/39(54) - 189/85(120)} mmHg
   RR: 15 (14 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.1 kg (admission): 51.3 kg
   Height: 72 Inch
    CVP: 10 (7 - 17)mmHg
   Total In:
                                                                  2,790 mL
                                                                    251 mL
   PO:
   TF:
                                                                    217 mL
                                                                    120 mL
   IVF:
                                                                  2,173 mL
                                                                    131 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    270 mL
   Urine:
                                                                    710 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,080 mL
                                                                    -19 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 419 (395 - 624) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 56
   PIP: 12 cmH2O
   Plateau: 15 cmH2O
   SpO2: 98%
   ABG: 7.34/61/98.[**Numeric Identifier 20**]/33/4
   Ve: 6.1 L/min
   PaO2 / FiO2: 280
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   101 K/uL
   8.0 g/dL
   111 mg/dL
   0.4 mg/dL
   33 mEq/L
   4.0 mEq/L
   14 mg/dL
   104 mEq/L
   140 mEq/L
   25.9 %
   5.8 K/uL
        [image002.jpg]
                             [**2164-10-16**]  11:25 AM
                             [**2164-10-16**]  07:04 PM
                             [**2164-10-16**]  07:24 PM
                             [**2164-10-17**]  01:32 AM
                             [**2164-10-17**]  01:43 AM
                             [**2164-10-17**]  04:23 AM
                             [**2164-10-17**]  02:21 PM
                             [**2164-10-17**]  04:10 PM
                             [**2164-10-18**]  02:44 AM
                             [**2164-10-18**]  03:48 AM
   WBC
   5.5
   5.2
   5.8
   Hct
   28.3
   25.9
   27.6
   25.9
   Plt
   102
   89
   101
   Cr
   0.5
   0.5
   0.4
   TCO2
   36
   35
   36
   34
   35
   34
   Glucose
   102
   104
   111
   Other labs: PT / PTT / INR:12.1/28.1/1.0, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 MALNUTRITION
 RESPIRATORY FAILURE, CHRONIC
 FRACTURE, OTHER
   55 F with history of severe COPD presents with R femur fracture s/p
   fixation and intubated for hypoxic hypercarbic respiratory distress.
   .
   # Respiratory failure: etiology unclear, COPD is likely [**Year (4 digits) 8646**]
   but unclear if this is the underlying etiology of resp failure,
   neuromuscular weakness 2/2 MS [**First Name (Titles) **] [**Last Name (Titles) 8646**] to this picture.
   - Abx for possible VAP
 cefipime, cipro, vanco.  Changed yesterday per
   ID recs.
   - Now on pressures support [**6-19**], will try SBP on 5/0, consider
   extubation dep on gas
   - Albuterol q2 PRN, ipratropium q6h PRN
   - No systemic steroids, continue to monitor clinical status
   - goal oxygenation 88-90 percent given chronic CO2 retention
   - give Lasix 10 mg now
   .
   # Labile Blood Pressures: pt initially hypotensive s/p intubation and
   started on dopamine This was d/ced after she became normotensive.
   However, pt then proceeded to be hypertensive c pressures in the 180s
   for several hours. After receiving 10 of metoprolol became hypotensive
   again and req fluid bolus, eventually became normotensive again.
   - dopamine d/ced
   - carvedilol d/ced
   - continue to trend blood pressures.
   - hold anti-hypertensives for now, will consider re-starting after
   extubation if necessary.
   .
   # Femur Fracture: likely secondary to osteoporosis. Patient was started
   on calcium and vit D.
   - f/u ortho surgery recs
   - continue lovenox x1month s/p femur fixation surgery
   .
   #low grade fevers
   -CXR without obvious infiltrate, but will continue abx for now for
   presumed VAP (vanc/cipro/cefepime)
   -f/u sputum cx, blood cx, urine cx
   -Tylenol for fevers
   .
   # Anemia/thrombocytopenia: unclear etiology, iron, B12 and folate sent.
   hct at [**Hospital1 **] [**7-24**] ago was 37. likely [**3-19**] bleeding into leg after femur
   fx
   - b12 and folate wnl; iron slightly low; can start iron PO if verify no
   infectious source
   - Trend daily CBC
 stable.
   - guaiac stools
   - lower platelets noted, will continue to follow closely.
   .
   # ? CAD: pt appears to have h/o cad. on carvedilol and plavix on
   admission. has also been on an ace in the past.
   -consider to investigate need for plavix...does pt have cardiologist?
   Called PCP
[**Name Initial (PRE) **] office, given med list, but PCP on vacation this week.
   -restart carvedilol when BPs stabilize
   - hold plavix for now in setting of recent surgery, unclear indication.
   .
   # FEN: Needed multiple IVF boluses, replete electrolytes
   -restart tube feeds
   - nutrition consult
   - UOP > 30
   .
   # Prophylaxis: lovenox, famotidine
    # Access: a-line, triple lumen R IJ
    # Brother is health care proxy
    # Full Code
    # ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-15**] 05:42 AM
   Arterial Line - [**2164-10-16**] 06:44 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer:  famotidine
   VAP:  HOB elevation, abx
   Comments:
   Communication:  Comments: with brother
   [**Name (NI) 156**] status: Full code
   Disposition:  ICU

2164-10-18 10:52:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, hip fracture
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Tolerated PSV for several hours last PM, switched to A/C overnight
   24 Hour Events:
 BLOOD CULTURED - At [**2164-10-17**] 09:32 AM
 URINE CULTURE - At [**2164-10-17**] 02:19 PM
 FEVER - 101.1
F - [**2164-10-17**] 08:00 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2164-10-17**] 05:47 AM
   Cefipime - [**2164-10-18**] 12:00 AM
   Vancomycin - [**2164-10-18**] 08:29 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2164-10-17**] 08:00 PM
   Midazolam (Versed) - [**2164-10-17**] 08:00 PM
   Enoxaparin (Lovenox) - [**2164-10-18**] 08:30 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-10-18**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 106 (66 - 106) bpm
   BP: 215/100(144) {79/39(55) - 215/100(144)} mmHg
   RR: 24 (14 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 52.1 kg (admission): 51.3 kg
   Height: 72 Inch
   CVP: 12 (7 - 13)mmHg
   Total In:
                                                                  2,790 mL
                                                                    492 mL
   PO:
   TF:
                                                                    217 mL
                                                                    120 mL
   IVF:
                                                                  2,173 mL
                                                                    372 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    450 mL
   Urine:
                                                                    710 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,080 mL
                                                                     42 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 406 (395 - 624) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 56
   PIP: 11 cmH2O
   Plateau: 15 cmH2O
   SpO2: 98%
   ABG: 7.34/61/98.[**Numeric Identifier 20**]/33/4
   Ve: 5.9 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   101 K/uL
   111 mg/dL
   0.4 mg/dL
   33 mEq/L
   4.0 mEq/L
   14 mg/dL
   104 mEq/L
   140 mEq/L
   25.9 %
   5.8 K/uL
        [image002.jpg]
                             [**2164-10-16**]  11:25 AM
                             [**2164-10-16**]  07:04 PM
                             [**2164-10-16**]  07:24 PM
                             [**2164-10-17**]  01:32 AM
                             [**2164-10-17**]  01:43 AM
                             [**2164-10-17**]  04:23 AM
                             [**2164-10-17**]  02:21 PM
                             [**2164-10-17**]  04:10 PM
                             [**2164-10-18**]  02:44 AM
                             [**2164-10-18**]  03:48 AM
   WBC
   5.5
   5.2
   5.8
   Hct
   28.3
   25.9
   27.6
   25.9
   Plt
   102
   89
   101
   Cr
   0.5
   0.5
   0.4
   TCO2
   36
   35
   36
   34
   35
   34
   Glucose
   102
   104
   111
   Other labs: PT / PTT / INR:12.1/28.1/1.0, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   55 yo woman with COPD, respiratory failure in setting of R femur
   fracture, s/p ORIF
   Respiratory Failure/COPD: Tolerated PSV yesterday, now back on this
   AM.  Will try SBT/extubation todaywith BiPap at standby
   Hypotension: Blood pressure reamins labile - holding antihypertensive.
   Right Hip fracture: s/p ORIF.  POD #2
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-15**] 05:42 AM
   Arterial Line - [**2164-10-16**] 06:44 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Continue cefepime/cipro/flagyl for VAP.  Not on PPI
 on famotidine
   ------ Protected Section Addendum Entered By:[**Name (NI) 1776**] [**Name8 (MD) **], MD
   on:[**2164-10-18**] 10:55 ------

2164-10-19 07:30:00 Physician Resident Progress Note
Chief Complaint: 55 F with history of severe COPD presents with R femur
   fracture s/p fixation and intubated for hypoxic hypercarbic respiratory
   distress.
   24 Hour Events:
   -gave 10lasix during day, neg approx 800cc at 11pm
   -tried SBT, did not tolerate, will consider extubate to bipap tomorrow
   -addl 10 lasix at 10p as normotensive-hypertensive
   -switched cipro to IV as no NGT. will need to switch back asap.
   -pt appeared tired around 4am. gas showed worsening resp acidosis and
   pt appeared to be working hard. pt was restarted on AC. FiO2 turned
   down as pO2 high
   -repeat gas showed pO2 of 57. will recheck in 1hr as resp wanted to not
   increase FiO2 unless <60 for 1 hr.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2164-10-17**] 05:47 AM
   Vancomycin - [**2164-10-18**] 08:29 AM
   Cefipime - [**2164-10-18**] 06:00 PM
   Ciprofloxacin - [**2164-10-19**] 12:07 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2164-10-18**] 08:00 PM
   Enoxaparin (Lovenox) - [**2164-10-18**] 08:00 PM
   Fentanyl - [**2164-10-18**] 09:22 PM
   Midazolam (Versed) - [**2164-10-18**] 09:23 PM
   Furosemide (Lasix) - [**2164-10-18**] 10:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-19**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 84 (69 - 106) bpm
   BP: 175/67(100) {103/51(70) - 215/100(144)} mmHg
   RR: 16 (11 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.1 kg (admission): 51.3 kg
   Height: 72 Inch
    CVP: 10 (6 - 15)mmHg
   Total In:
                                                                    952 mL
                                                                    392 mL
   PO:
   TF:
                                                                    120 mL
   IVF:
                                                                    832 mL
                                                                    392 mL
   Blood products:
   Total out:
                                                                  2,140 mL
                                                                    680 mL
   Urine:
                                                                  2,140 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,188 mL
                                                                   -288 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 333 (333 - 429) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   SpO2: 95%
   ABG: 7.35/63/54/34/6
   Ve: 7.4 L/min
   PaO2 / FiO2: 154
   Physical Examination
   Intubated, sedated but responsive
   Minimal breath sounds bilaterally, as previous
   RRR, no audible murmurs
   Abdomen firm as always, but non-tender, +BS
   1+ pedal edema on R (consistent since admission), trace on left.  2+
   pulses in both feet.
   Labs / Radiology
   138 K/uL
   8.7 g/dL
   81 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.8 mEq/L
   12 mg/dL
   99 mEq/L
   141 mEq/L
   27.9 %
   6.4 K/uL
        [image002.jpg]
                             [**2164-10-17**]  02:21 PM
                             [**2164-10-17**]  04:10 PM
                             [**2164-10-18**]  02:44 AM
                             [**2164-10-18**]  03:48 AM
                             [**2164-10-18**]  11:59 AM
                             [**2164-10-18**]  04:41 PM
                             [**2164-10-19**]  03:16 AM
                             [**2164-10-19**]  03:42 AM
                             [**2164-10-19**]  05:12 AM
                             [**2164-10-19**]  06:14 AM
   WBC
   5.8
   6.4
   Hct
   25.9
   27.9
   Plt
   101
   138
   Cr
   0.4
   0.5
   TCO2
   34
   35
   34
   34
   39
   38
   36
   36
   Glucose
   111
   81
   Other labs: PT / PTT / INR:12.3/27.0/1.0, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 MALNUTRITION
 RESPIRATORY FAILURE, CHRONIC
 FRACTURE, OTHER
   55 F with history of severe COPD presents with R femur fracture s/p
   fixation and intubated for hypoxic hypercarbic respiratory distress.
   .
   # Respiratory failure: etiology not entirely clear - severe COPD, with
   significant volume repletion during hospitalization - markedly positive
   fluid balance for LOS.  Likely due to underlying lung disease plus
   volume overload, possible overlying infection.  Failed SBT yesterday,
   tired overnight on PS, now back on AC.   Lasix 10 mg given yesterday x2
   with good urine output.
   - Abx for possible VAP
 cefipime, cipro, vanco.- consider stopping
   this afternoon if improved, remains afebrile
   - On AC currently, will change to PS
   - Albuterol q2 PRN, ipratropium q6h PRN
   - No systemic steroids, continue to monitor clinical status
   - give Lasix 10 mg now for continued diuresis
   -lighten sedation and attempt to extubate to bipap later today.  Given
   her underlying very severe lung disease she will likely be a difficult
   extubation, but it is unlikely that we can optimize her much more than
   now.
   .
   # Labile Blood Pressures: continuing to be fairly unstable -
   hypertensive yesterday in the context of decreased sedation, anxiety
   and pain (though patient denied these symptoms, she appeared anxious,
   and her brother emphasized that she rarely will admit to pain or
   discomfort).  Sedation increased yesterday afternoon and BP's dropped
   significantly, from 170-180 to 110-120.    This morning ranging
   120-130.  Blood pressures have been correlating closely with level of
   sedation and analgesia.
   - will follow blood pressures closely, plan to re-start beta-blockers
   (?lopressor) when more stable, possibly after extubation.
   .
   # Femur Fracture: likely secondary to osteoporosis. Patient was started
   on calcium and vit D.  Surgery reportedly went well, dressing appears
   clean.  Peri-op Ancef given.
   - f/u ortho surgery recs
   - continue lovenox x1month s/p femur fixation surgery
   .
   #low grade fevers
   -CXR without obvious infiltrate, but will continue abx for now for
   presumed VAP (vanc/cipro/cefepime)
   -f/u sputum cx, blood cx, urine cx
   -Tylenol for fevers
   -consider stopping abx this afternoon
   .
   # Anemia/thrombocytopenia: unclear etiology, iron, B12 and folate sent.
   hct at [**Hospital1 **] [**7-24**] ago was 37. likely [**3-19**] bleeding into leg after femur
   fx
   - b12 and folate wnl; iron slightly low; can start iron PO if verify no
   infectious source
   - Trend daily CBC
 stable.
   - guaiac stools
   - lower platelets noted, will continue to follow closely.
   .
   # ? CAD: pt appears to have h/o cad. on carvedilol and [**Month/Day (2) 120**] on
   admission. has also been on an ace in the past.
   - unclear rationale for [**Name (NI) **] - called PCP
[**Name Initial (PRE) **] office, given med list,
   but PCP on vacation this week.
   - restart home carvedilol when BPs stabilize
   - hold [**Name Initial (PRE) 120**] for now in setting of recent surgery, unclear
   indication.
   .
   # FEN: Needed multiple IVF boluses earlier in hospital stay, now very
   fluid positive.  Continue to diuresis as tolerated.  Also now without
   NGT, patient pulled out.
   -restart tube feeds unless able to extubate today.
   - UOP > 30
   -lasix 10 now
   -likely will need S&S before eating if tolerates extubation
   .
   # Prophylaxis: lovenox, famotidine
   .
    # Access: a-line, triple lumen R IJ
   .
    # Brother is health care proxy - communicating with him daily
    .
    # Full Code
   .
    # ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-15**] 05:42 AM
   Arterial Line - [**2164-10-16**] 06:44 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2164-10-19 10:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, s/p ORIF for hip fracture
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Diuresis of 1.2L yesterday
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2164-10-17**] 05:47 AM
   Cefipime - [**2164-10-18**] 06:00 PM
   Ciprofloxacin - [**2164-10-19**] 12:07 AM
   Vancomycin - [**2164-10-19**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2164-10-18**] 09:22 PM
   Midazolam (Versed) - [**2164-10-18**] 09:23 PM
   Furosemide (Lasix) - [**2164-10-18**] 10:01 PM
   Enoxaparin (Lovenox) - [**2164-10-19**] 08:00 AM
   Famotidine (Pepcid) - [**2164-10-19**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-10-19**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 88 (69 - 92) bpm
   BP: 104/53(70) {103/51(70) - 195/79(121)} mmHg
   RR: 16 (11 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.1 kg (admission): 51.3 kg
   Height: 72 Inch
   CVP: 7 (6 - 15)mmHg
   Total In:
                                                                    952 mL
                                                                    732 mL
   PO:
   TF:
                                                                    120 mL
   IVF:
                                                                    832 mL
                                                                    732 mL
   Blood products:
   Total out:
                                                                  2,140 mL
                                                                    760 mL
   Urine:
                                                                  2,140 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,188 mL
                                                                    -28 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 333 (333 - 429) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 17 cmH2O
   Compliance: 35 cmH2O/mL
   SpO2: 95%
   ABG: 7.36/61/80.[**Numeric Identifier 20**]/34/6
   Ve: 6.4 L/min
   PaO2 / FiO2: 229
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   138 K/uL
   81 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.8 mEq/L
   12 mg/dL
   99 mEq/L
   141 mEq/L
   27.9 %
   6.4 K/uL
        [image002.jpg]
                             [**2164-10-17**]  04:10 PM
                             [**2164-10-18**]  02:44 AM
                             [**2164-10-18**]  03:48 AM
                             [**2164-10-18**]  11:59 AM
                             [**2164-10-18**]  04:41 PM
                             [**2164-10-19**]  03:16 AM
                             [**2164-10-19**]  03:42 AM
                             [**2164-10-19**]  05:12 AM
                             [**2164-10-19**]  06:14 AM
                             [**2164-10-19**]  07:51 AM
   WBC
   5.8
   6.4
   Hct
   25.9
   27.9
   Plt
   101
   138
   Cr
   0.4
   0.5
   TCO2
   35
   34
   34
   39
   38
   36
   36
   36
   Glucose
   111
   81
   Other labs: PT / PTT / INR:12.3/27.0/1.0, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   55 yo woman with COPD, respiratory failure in setting of R femur
   fracture, s/p ORIF
   Respiratory Failure/COPD: COPD has been limiting ability to wean.
   Tolerating diuresis.  Cont cefepime/cipro/vanco for VAP.  Lighten
   sedation and try to extubate today direct to NIPPV.  Will try to
   diurese more as well - goal 1L neg
   Hypotension/Hypertension: Continues to be labile.
   Right Hip fracture: s/p ORIF.  POD #3
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-15**] 05:42 AM
   Arterial Line - [**2164-10-16**] 06:44 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2164-10-20 06:43:00 Physician Resident Progress Note
Chief Complaint: 55 F with history of severe COPD presents with R femur
   fracture s/p fixation and intubated for hypoxic hypercarbic respiratory
   distress.
   24 Hour Events:
   -negative fluid balance, trial of PS in the afternoon, but became
   significantly anxious and agitated, appeared more tired, increased
   sedation.
   -Debated extubation, but was agitated, difficult to assess respiratory
   status when weaned off sedation.
   -Decided to sedate on propofol overnight, place on AC, plan to SBT and
   hopefully extubate tomorrow morning.
   -hypertensive to systolics in 180's-gave dose carvedilol 3.125
   -OG tube placed, oral meds given overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-19**] 08:00 AM
   Cefipime - [**2164-10-20**] 12:00 AM
   Ciprofloxacin - [**2164-10-20**] 01:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2164-10-19**] 08:00 AM
   Furosemide (Lasix) - [**2164-10-19**] 12:00 PM
   Fentanyl - [**2164-10-19**] 05:47 PM
   Famotidine (Pepcid) - [**2164-10-19**] 08:00 PM
   Morphine Sulfate - [**2164-10-20**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-20**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.2
   HR: 71 (71 - 89) bpm
   BP: 138/63(89) {103/52(70) - 197/111(144)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.6 kg (admission): 51.3 kg
   Height: 72 Inch
    CVP: 1 (1 - 10)mmHg
   Total In:
                                                                  1,270 mL
                                                                    536 mL
   PO:
   TF:
   IVF:
                                                                  1,270 mL
                                                                    386 mL
   Blood products:
   Total out:
                                                                  1,910 mL
                                                                    275 mL
   Urine:
                                                                  1,910 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -640 mL
                                                                    261 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 420 (420 - 499) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 13 cmH2O
   Compliance: 52.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.46/53/96.[**Numeric Identifier 7**]/36/11
   Ve: 7.4 L/min
   PaO2 / FiO2: 277
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   129 K/uL
   7.6 g/dL
   101 mg/dL
   0.5 mg/dL
   36 mEq/L
   3.2 mEq/L
   12 mg/dL
   97 mEq/L
   139 mEq/L
   24.0 %
   4.4 K/uL
        [image002.jpg]
                             [**2164-10-18**]  11:59 AM
                             [**2164-10-18**]  04:41 PM
                             [**2164-10-19**]  03:16 AM
                             [**2164-10-19**]  03:42 AM
                             [**2164-10-19**]  05:12 AM
                             [**2164-10-19**]  06:14 AM
                             [**2164-10-19**]  07:51 AM
                             [**2164-10-19**]  04:57 PM
                             [**2164-10-20**]  02:37 AM
                             [**2164-10-20**]  04:23 AM
   WBC
   6.4
   4.4
   Hct
   27.9
   24.0
   Plt
   138
   129
   Cr
   0.5
   0.5
   TCO2
   34
   39
   38
   36
   36
   36
   35
   39
   Glucose
   81
   101
   Other labs: PT / PTT / INR:13.9/27.5/1.2, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 MALNUTRITION
 RESPIRATORY FAILURE, CHRONIC
 FRACTURE, OTHER
   55 F with history of severe COPD presents with R femur fracture s/p
   fixation and intubated for hypoxic hypercarbic respiratory distress.
   .
   # Respiratory failure: etiology multifactorial - severe COPD, with
   significant volume repletion during hospitalization - markedly positive
   fluid balance for LOS.  Likely due to underlying lung disease plus
   volume overload, possible overlying infection.  Planned for extubation
   yesterday, but significantly agitated when on reduced sedation, ABG
   still with decreased PO2.   Lasix 10 mg given yesterday with good urine
   output.
   - Abx for possible VAP
 cefipime, cipro, vanco.- complete full [**8-24**]
   day course, can narrow as appropriate when more stable.
   - On AC overnight with propofol sedation - plan for SBT today, try to
   extubate to BiPAP.
   - Albuterol q2 PRN, ipratropium q6h PRN.  Solumedrol post-extubation if
   needed.
   .
   # Labile Blood Pressures: continuing to be fairly unstable -
   hypertensive overnight with marked anxiety.  Has had persistent pain
   and anxiety (though patient denied these symptoms, she appeared
   anxious, and her brother emphasized that she rarely will admit to pain
   or discomfort).  Blood pressures have consistently been reduced with
   increased sedation levels.  Blood pressures have been correlating
   closely with level of sedation and analgesia.
   - will follow blood pressures closely, plan to re-start beta-blockers
   after extubation for better BP control.
   -Coreg started last night other PO meds after OG tube placement.
   .
   # Femur Fracture: likely secondary to osteoporosis. Patient was started
   on calcium and vit D.  Surgery reportedly went well, dressing appears
   clean.  Peri-op Ancef given.
   - f/u ortho surgery recs
 nothing new for now.
   - continue lovenox x1month s/p femur fixation surgery
   .
   # Anemia/thrombocytopenia: unclear etiology, iron, B12 and folate sent.
   hct at [**Hospital1 **] [**7-24**] ago was 37. likely [**3-19**] bleeding into leg after femur
   fx.  Decreased HCT this morning.
   - b12 and folate wnl; iron slightly low; can start iron PO if verify no
   infectious source
   - Have been trending daily CBC
 stable recently.   Will check HCT this
   afternoon to assess if this is a true drop.
   - guaiac stools
   - lower platelets noted, will continue to follow closely.
   .
   # ? CAD: pt appears to have h/o cad. on carvedilol and [**Month/Day (2) 120**] on
   admission. has also been on an ace in the past.
   - unclear rationale for [**Name (NI) **] - called PCP
[**Name Initial (PRE) **] office, given med list,
   but PCP on vacation this week.
   - restart home carvedilol when BPs stabilize
   - hold [**Name Initial (PRE) 120**] for now in setting of recent surgery, unclear
   indication.
   .
   # FEN: Needed multiple IVF boluses earlier in hospital stay, now very
   fluid positive.  Continue to diuresis as tolerated.  OGT re-placed
   overnight.  10 mg Lasix today before extubation.
   -if able to extubate today will DC feeding tube.
   - UOP > 30
   -will need S&S before eating if tolerates extubation
   .
   # Prophylaxis: lovenox, famotidine
   .
    # Access: a-line, triple lumen R IJ
   .
    # Brother is health care proxy - communicating with him daily
    .
    # Full Code
   .
    # ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-15**] 05:42 AM
   Arterial Line - [**2164-10-16**] 06:44 PM
   Prophylaxis:
   DVT: LMW Heparin(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mrs [**Known lastname 229**] failed an extubation attempt within 45 minutes being unable
   to tolerate NIPPV despite diuresis, nebs and steroids. She will need
   rescucitation for hypotension tonight requiring pressors and fluids. I
   am concerned regarding coronary ischemia and we will sedate
   appropriately on ACV ventilation. We will also minimize autoPEEP on
   vent given severity of underlying COPD. I am doubtful she will be able
   to sustain spontaneous ventilation given marginal breathing reserve.
   She may very need a tracheostomy if she is stabilized over the next 48
   hours but unable to wean on the ventilator.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2164-10-20**] 18:45 ------

2164-10-21 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2164-10-20**] 11:00 AM
 NON-INVASIVE VENTILATION - START [**2164-10-20**] 11:10 AM
 INVASIVE VENTILATION - START [**2164-10-20**] 12:17 PM
 NON-INVASIVE VENTILATION - STOP [**2164-10-20**] 12:18 PM
   -failed extubation and reintubated an hour later.
   -started on IV methylprednisolone 125mg Q8 hours
   -was on three pressors at one point for hypotension upon intubation;
   eventually titrated off and tolerating only dopamine infusion now
   -stopped tube feeds at midnight in preparation for potential extubation
   tomorrow
   -family made aware of re- intubation
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-20**] 08:00 PM
   Cefipime - [**2164-10-21**] 12:00 AM
   Ciprofloxacin - [**2164-10-21**] 12:30 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Dopamine - 12 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2164-10-20**] 07:30 AM
   Famotidine (Pepcid) - [**2164-10-20**] 08:30 AM
   Furosemide (Lasix) - [**2164-10-20**] 10:46 AM
   Hydralazine - [**2164-10-20**] 11:20 AM
   Enoxaparin (Lovenox) - [**2164-10-20**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-21**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.9
   HR: 71 (67 - 102) bpm
   BP: 111/57(76) {51/34(42) - 224/99(146)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.6 kg (admission): 51.3 kg
   Height: 72 Inch
    CVP: 5 (4 - 8)mmHg
   Total In:
                                                                  3,757 mL
                                                                    877 mL
   PO:
   TF:
                                                                    146 mL
                                                                    362 mL
   IVF:
                                                                  3,230 mL
                                                                    475 mL
   Blood products:
   Total out:
                                                                  2,390 mL
                                                                    640 mL
   Urine:
                                                                  2,390 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,367 mL
                                                                    237 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 560 (160 - 560) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: 7.41/57/81.[**Numeric Identifier **]/34/8
   Ve: 7.3 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   166 K/uL
   8.6 g/dL
   203 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.8 mEq/L
   14 mg/dL
   98 mEq/L
   138 mEq/L
   27.3 %
   4.0 K/uL
        [image002.jpg]
                             [**2164-10-19**]  04:57 PM
                             [**2164-10-20**]  02:37 AM
                             [**2164-10-20**]  04:23 AM
                             [**2164-10-20**]  10:56 AM
                             [**2164-10-20**]  11:50 AM
                             [**2164-10-20**]  01:41 PM
                             [**2164-10-20**]  01:55 PM
                             [**2164-10-20**]  06:30 PM
                             [**2164-10-21**]  03:00 AM
                             [**2164-10-21**]  03:14 AM
   WBC
   4.4
   7.1
   4.0
   Hct
   24.0
   28.3
   27.3
   Plt
   129
   175
   166
   Cr
   0.5
   0.5
   0.5
   TCO2
   35
   39
   39
   41
   37
   37
   37
   Glucose
   101
   167
   203
   Other labs: PT / PTT / INR:13.2/26.5/1.1, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR:
   The ET tube tip is 7 cm above the carina. The NG tube tip is in
   the stomach. There is a right IJ line with tip in the SVC. The lungs
   are
   hyperinflated consistent with known COPD.
   Microbiology: [**2164-10-17**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2164-10-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2164-10-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2164-10-17**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2164-10-16**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2164-10-15**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2164-10-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2164-10-15**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2164-10-14**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   Assessment and Plan
 HYPERTENSION, BENIGN
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 MALNUTRITION
 RESPIRATORY FAILURE, CHRONIC
 FRACTURE, OTHER
   55 F with history of severe COPD presents with R femur fracture s/p
   fixation and intubated for hypoxic hypercarbic respiratory distress.
   .
   # Respiratory failure: etiology multifactorial - severe COPD, with
   significant volume repletion during hospitalization - markedly positive
   fluid balance for LOS.  Likely due to underlying lung disease plus
   volume overload, possible overlying infection. Had unsuccessful
   extubation yesterday and was reintubated secondary to hypoxia. Started
   on steroids.
   - Abx for possible VAP
 cefipime (day 5), cipro (day 4), vanco (day
   7).- complete full 10 day course, can narrow as appropriate when more
   stable.
   - On AC overnight with propofol sedation - plan for SBT today, try to
   extubate again in 48 hours. [**Month (only) 8**] have difficulty extubating [**3-19**]
   underlying lung pathology. Family aware that patient may need to
   transition to tracheostomy.
   - Albuterol q2 PRN, ipratropium q6h PRN.
    Methylprednisolone 125mg Q8 yesterday- decreased to 60TID today will
   continue to taper
   -switched to PSV this am, will see if tolerates
   -1.3 liters positive yesterday. Can plan to make her I/O's even if BP
   will tolerate diuresis.
   -call IP re trach for tuesday
   .
   # Labile Blood Pressures: continuing to be fairly unstable - Blood
   pressures have consistently been reduced with increased sedation
   levels.  Blood pressures have been correlating closely with level of
   sedation and analgesia. Yesterday, was hypotensive requiring 3 pressors
   after intubation. Currently weaned down to solely dopamine.
   - will follow blood pressures closely, plan to wean dopa as soon as
   tolerated
   -will bolus 250cc/hr
   .
   # Femur Fracture: likely secondary to osteoporosis. Patient was started
   on calcium and vit D.  Surgery reportedly went well, dressing appears
   clean.  Peri-op Ancef given.
   - f/u ortho surgery recs
 nothing new for now.
   - continue lovenox x1month s/p femur fixation surgery
   .
   # Anemia/thrombocytopenia: unclear etiology, iron, B12 and folate sent.
   hct at [**Hospital1 **] [**7-24**] ago was 37. likely [**3-19**] bleeding into leg after femur
   fx.  Hct stable this AM
   - b12 and folate wnl; iron slightly low; can start iron PO if verify no
   infectious source
   - Have been trending daily CBC
 stable recently.
   - guaiac stools
   - lower platelets noted, will continue to follow closely.
   .
   # ? CAD: pt appears to have h/o cad. on carvedilol and [**Month/Day (2) 120**] on
   admission. has also been on an ace in the past.
   - unclear rationale for [**Name (NI) **] - called PCP
[**Name Initial (PRE) **] office, given med list,
   but PCP on vacation this week.
   - restart home carvedilol when BPs stabilize
   - hold [**Name Initial (PRE) 120**] for now in setting of recent surgery, unclear
   indication.
   .
   # FEN: Needed multiple IVF boluses yesterday and currently positive.
   -Continue to diuresis as tolerated.
   - UOP > 30
   -will need S&S before eating if tolerates extubation
   -on tube feeds at goal
   .
   # Prophylaxis: lovenox, famotidine
   .
    # Access: a-line, triple lumen R IJ
   .
    # Brother is health care proxy - communicating with him daily
   .
    # Full Code
   .
    # ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2164-10-20**] 09:45 PM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-15**] 05:42 AM
   Arterial Line - [**2164-10-16**] 06:44 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She remains in distress despite better ventilation/ synchrony on PSV/
   CPAP mode and improving MAP
s. She will have her steroids weaned over
   the next 48 hours but I am not optimistic that she will sustain
   spontaneous ventilation for prolonged durations given the severity of
   her COPD, continued accessory muscle use and her marginal nutritional
   state. We will speak with family regarding early tracheostomy/ PEG this
   week to allow her better participation in rehab which she urgently
   needs. We will try and minimize autoPEEP and resultant effects of BP
   over next 24 hours.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2164-10-21**] 15:02 ------

2164-10-22 06:40:00 Physician Resident Progress Note
Chief Complaint: 55 F with history of severe COPD presents with R femur
   fracture s/p fixation and intubated for hypoxic hypercarbic respiratory
   distress.
   24 Hour Events:
   -pressures up @ 9p c maps in 100s, also ~1liter pos. gave lasix 10.
   -not on pressors
   -vanc trough appropriate
   -could try to run her a little more acidodic
   -nsg wondering whether picc would be better than central line at this
   point
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-21**] 10:03 AM
   Cefipime - [**2164-10-21**] 01:42 PM
   Ciprofloxacin - [**2164-10-21**] 08:59 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2164-10-21**] 09:30 AM
   Propofol - [**2164-10-21**] 03:09 PM
   Enoxaparin (Lovenox) - [**2164-10-21**] 08:59 PM
   Furosemide (Lasix) - [**2164-10-21**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-22**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.4
   HR: 57 (57 - 89) bpm
   BP: 140/63(91) {94/52(68) - 167/94(111)} mmHg
   RR: 14 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 50.6 kg (admission): 51.3 kg
   Height: 72 Inch
    CVP: 5 (5 - 11)mmHg
   Total In:
                                                                  3,998 mL
                                                                    974 mL
   PO:
   TF:
                                                                  1,544 mL
                                                                    391 mL
   IVF:
                                                                  1,854 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  2,985 mL
                                                                  1,085 mL
   Urine:
                                                                  2,980 mL
                                                                  1,085 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  1,013 mL
                                                                   -111 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 458 (37 - 539) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 33
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   Compliance: 84 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/59/104/37/9
   Ve: 8.5 L/min
   PaO2 / FiO2: 297
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   205 K/uL
   7.6 g/dL
   153 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.2 mEq/L
   21 mg/dL
   103 mEq/L
   144 mEq/L
   24.4 %
   5.0 K/uL
        [image002.jpg]
                             [**2164-10-20**]  01:41 PM
                             [**2164-10-20**]  01:55 PM
                             [**2164-10-20**]  06:30 PM
                             [**2164-10-21**]  03:00 AM
                             [**2164-10-21**]  03:14 AM
                             [**2164-10-21**]  10:50 AM
                             [**2164-10-21**]  12:53 PM
                             [**2164-10-21**]  03:14 PM
                             [**2164-10-22**]  03:00 AM
                             [**2164-10-22**]  03:14 AM
   WBC
   7.1
   4.0
   5.0
   Hct
   28.3
   27.3
   24.4
   Plt
   175
   166
   205
   Cr
   0.5
   0.5
   0.6
   TCO2
   37
   37
   37
   36
   36
   37
   39
   Glucose
   167
   203
   153
   Other labs: PT / PTT / INR:12.5/23.5/1.1, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 MALNUTRITION
 RESPIRATORY FAILURE, CHRONIC
 FRACTURE, OTHER
   55 F with history of severe COPD presents with R femur fracture s/p
   fixation and intubated for hypoxic hypercarbic respiratory distress.
   Attempted extubation on [**2164-10-20**], but required re-intubation within
   hours.
   .
   # Respiratory failure: etiology multifactorial - severe COPD, with
   significant volume repletion during hospitalization - markedly positive
   fluid balance for LOS.  Likely due to underlying lung disease plus
   volume overload, possible overlying infection. Had unsuccessful
   extubation on [**10-20**] and was reintubated secondary to hypoxia. Started on
   steroids.
   - Abx for possible VAP
 cefipime (day 5), cipro (day 4), vanco (day
   7).- complete full 10 day course, can narrow as appropriate when more
   stable.
   - On AC overnight with propofol sedation - plan for SBT today. [**Month (only) 8**] have
   difficulty extubating [**3-19**] underlying lung pathology. Family aware that
   patient may need to transition to tracheostomy.
   - Albuterol q2 PRN, ipratropium q6h PRN.
    Methylprednisolone 125mg Q8 yesterday- decreased to 60TID today will
   continue to taper
   -switched to PSV this am, will see if tolerates
   -good urine output.
   -call IP re trach for tuesday
   .
   # Labile Blood Pressures: continuing to be fairly unstable - Blood
   pressures have consistently been reduced with increased sedation
   levels.  Blood pressures have been correlating closely with level of
   sedation and analgesia. Was hypotensive requiring 3 pressors after
   intubation.
   - now off pressors, received Lopressor overnight for hypertension.
   BP's stable this morning.
   .
   # Femur Fracture: likely secondary to osteoporosis. Patient was started
   on calcium and vit D.  Surgery reportedly went well, dressing appears
   clean.  Peri-op Ancef given.
   - f/u ortho surgery recs
 nothing new for now.
   - continue lovenox x1month s/p femur fixation surgery
   .
   # Anemia/thrombocytopenia: unclear etiology, iron, B12 and folate sent.
   hct at [**Hospital1 **] [**7-24**] ago was 37. likely [**3-19**] bleeding into leg after femur
   fx.  Hct stable this AM
   - b12 and folate wnl; iron slightly low; can start iron PO if verify no
   infectious source
   - Have been trending daily CBC
 unclear pattern, but today's value
   lower.  Will re-check again in PM.  Transfuse if it continues to
   drop.
   - guaiac stools
   - lower platelets noted, will continue to follow closely.
   .
   # ? CAD: pt appears to have h/o cad. on carvedilol and [**Month/Day (2) 120**] on
   admission. has also been on an ace in the past.
   - unclear rationale for [**Name (NI) **] - called PCP
[**Name Initial (PRE) **] office, given med list,
   but PCP on vacation this week.
   - restart home carvedilol when BPs stabilize
   - hold [**Name Initial (PRE) 120**] for now in setting of recent surgery, unclear
   indication.
   .
   # FEN: Needed multiple IVF boluses yesterday and currently positive.
   -Continue to diuresis as tolerated.
   - UOP > 30
   -will need S&S before eating if tolerates extubation
   -on tube feeds at goal
   .
   # Prophylaxis: lovenox, famotidine
   .
    # Access: a-line, triple lumen R IJ
   .
    # Brother is health care proxy - communicating with him daily
   .
    # Full Code
   .
    # ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2164-10-21**] 10:29 PM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2164-10-15**] 05:42 AM
   Arterial Line - [**2164-10-16**] 06:44 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2164-10-23 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -slightly anxious during the day, but mostly stable, normotensive,
   oxygenating well.
   -low dose ativan for agitation.
   -holding BP meds today.
   -hematocrit decreased on am labs, back to baseline in PM, lower again
   at midnight.
   -potassium decreased, back to normal with repletion.
   -trach/peg discussed with IP - scheduled for wednesday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-22**] 09:38 PM
   Ciprofloxacin - [**2164-10-23**] 12:00 AM
   Cefipime - [**2164-10-23**] 12:10 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2164-10-22**] 08:21 AM
   Lorazepam (Ativan) - [**2164-10-22**] 10:30 AM
   Morphine Sulfate - [**2164-10-22**] 05:15 PM
   Famotidine (Pepcid) - [**2164-10-23**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-23**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 70 (67 - 85) bpm
   BP: 149/67(96) {93/47(65) - 168/148(285)} mmHg
   RR: 21 (14 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.6 kg (admission): 51.3 kg
   Height: 72 Inch
    CVP: 6 (1 - 7)mmHg
   Total In:
                                                                  4,065 mL
                                                                    931 mL
   PO:
   TF:
                                                                  1,448 mL
                                                                    457 mL
   IVF:
                                                                  1,307 mL
                                                                    474 mL
   Blood products:
   Total out:
                                                                  2,770 mL
                                                                    245 mL
   Urine:
                                                                  2,760 mL
                                                                    245 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                  1,295 mL
                                                                    686 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 472 (386 - 582) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 57
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///36/
   Ve: 7.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   236 K/uL
   7.9 g/dL
   107 mg/dL
   0.5 mg/dL
   36 mEq/L
   4.5 mEq/L
   24 mg/dL
   102 mEq/L
   140 mEq/L
   25.1 %
   5.8 K/uL
        [image002.jpg]
                             [**2164-10-21**]  03:00 AM
                             [**2164-10-21**]  03:14 AM
                             [**2164-10-21**]  10:50 AM
                             [**2164-10-21**]  12:53 PM
                             [**2164-10-21**]  03:14 PM
                             [**2164-10-22**]  03:00 AM
                             [**2164-10-22**]  03:14 AM
                             [**2164-10-22**]  05:05 PM
                             [**2164-10-22**]  11:44 PM
                             [**2164-10-23**]  04:04 AM
   WBC
   4.0
   5.0
   5.8
   Hct
   27.3
   24.4
   27.1
   24.3
   25.1
   Plt
   166
   205
   236
   Cr
   0.5
   0.6
   0.5
   TCO2
   37
   36
   36
   37
   39
   Glucose
   [**Telephone/Fax (3) 8745**]
   Other labs: PT / PTT / INR:12.7/24.1/1.1, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ANXIETY
 HYPERTENSION, BENIGN
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 MALNUTRITION
 RESPIRATORY FAILURE, CHRONIC
 FRACTURE, OTHER
   55 F with history of severe COPD presents with R femur fracture s/p
   fixation and intubated for hypoxic hypercarbic respiratory distress.
   Attempted extubation on [**2164-10-20**], but required re-intubation within hours
   now planning for trach.
   .
   # Respiratory failure: etiology multifactorial - severe COPD, with
   significant volume repletion during hospitalization - markedly positive
   fluid balance for LOS.  Likely due to underlying lung disease plus
   volume overload, possible overlying infection. Had unsuccessful
   extubation on [**10-20**] and was reintubated secondary to hypoxia. Started on
   steroids.
   - Abx for possible VAP
 cefipime (day 6), cipro (day 5), vanco (day 8)
   -DC vancomycin, complete 7 days for other two abx.
   - tolerating psv.
   -plan for trach tomorrow, family aware.
   - Albuterol q2 PRN, ipratropium q6h PRN.
   -methylprednisolone tapering, at 40 [**Hospital1 **] currently
 transition to
   prednisone 60 QD, continue taper.
   -concerned for component of volume overload, responds well to 10 IV
   lasix  - goal 500 to 1000 ml today.
   .
   #Labile Blood Pressures: continuing to be fairly unstable - Blood
   pressures have consistently been reduced with increased sedation
   levels.  Blood pressures have been correlating closely with level
   ofsedation and analgesia. Was hypotensive requiring 3 pressors after
   intubation.
   - now off pressors
   -have been giving lasix for elev BPs as has been mildly overloaded
   -will consider restart carvedilol
   -Ativan PRN for anxiety, agitation.
   .
   # Femur Fracture: likely secondary to osteoporosis. Patient was started
   on calcium and vit D.  Surgery reportedly went well, dressing appears
   clean.  Peri-op Ancef given.
   - f/u ortho surgery recs
 nothing new for now.
   - continue lovenox x1month s/p femur fixation surgery
   .
   # Anemia/thrombocytopenia: unclear etiology, iron, B12 and folate sent.
   hct at [**Hospital1 **] [**7-24**] ago was 37. likely [**3-19**] bleeding into leg after femur
   fx.  Hct stable this AM
   - b12 and folate wnl; iron slightly low; can start iron PO if verify no
   infectious source
   - Have been trending daily CBC
 unclear pattern, but today's value
   lower, likely [**3-19**] phlebotomy.  Will re-check again in am.  Transfuse if
   it continues to drop.
   - active T&S
   .
   # ? CAD: pt appears to have h/o cad. on carvedilol and [**Month/Day (2) 120**] on
   admission. has also been on an ace in the past.
   - unclear rationale for [**Name (NI) **] - called PCP
[**Name Initial (PRE) **] office, given med list,
   but PCP on vacation this week.
   - restart home carvedilol when BPs stabilize
   - hold [**Name Initial (PRE) 120**] for now in setting of recent surgery, unclear
   indication.
   .
   #agitation: ativan prn
   # FEN: Needed multiple IVF boluses yesterday and currently positive.
   -Continue to diuresis as tolerated.
   - UOP > 30
   -will need S&S before eating if tolerates extubation, may need PEG
   -on tube feeds at goal
   .
   # Prophylaxis: lovenox, famotidine
   .
    # Access: a-line, triple lumen R IJ
   .
    # Brother is health care proxy - communicating with him daily
   .
    # Full Code
   .
    # ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2164-10-23**] 01:00 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-15**] 05:42 AM
   Arterial Line - [**2164-10-16**] 06:44 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2164-10-23 10:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Hip Fracture
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Ativan for anxiety
   24 Hour Events:
   Trach scheduled for tomorrow
   History obtained from Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2164-10-23**] 12:00 AM
   Cefipime - [**2164-10-23**] 12:10 AM
   Vancomycin - [**2164-10-23**] 08:01 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2164-10-22**] 10:30 AM
   Morphine Sulfate - [**2164-10-22**] 05:15 PM
   Famotidine (Pepcid) - [**2164-10-23**] 08:00 AM
   Enoxaparin (Lovenox) - [**2164-10-23**] 08:01 AM
   Furosemide (Lasix) - [**2164-10-23**] 09:27 AM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-10-23**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 82 (67 - 85) bpm
   BP: 155/67(96) {93/47(65) - 163/148(285)} mmHg
   RR: 19 (14 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.6 kg (admission): 51.3 kg
   Height: 72 Inch
   CVP: 4 (1 - 7)mmHg
   Total In:
                                                                  4,065 mL
                                                                  1,527 mL
   PO:
   TF:
                                                                  1,448 mL
                                                                    619 mL
   IVF:
                                                                  1,307 mL
                                                                    768 mL
   Blood products:
   Total out:
                                                                  2,770 mL
                                                                  1,105 mL
   Urine:
                                                                  2,760 mL
                                                                  1,105 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                  1,295 mL
                                                                    422 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 169 (169 - 582) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 57
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///36/
   Ve: 8.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   distant)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   236 K/uL
   107 mg/dL
   0.5 mg/dL
   36 mEq/L
   4.5 mEq/L
   24 mg/dL
   102 mEq/L
   140 mEq/L
   25.1 %
   5.8 K/uL
        [image002.jpg]
                             [**2164-10-21**]  03:00 AM
                             [**2164-10-21**]  03:14 AM
                             [**2164-10-21**]  10:50 AM
                             [**2164-10-21**]  12:53 PM
                             [**2164-10-21**]  03:14 PM
                             [**2164-10-22**]  03:00 AM
                             [**2164-10-22**]  03:14 AM
                             [**2164-10-22**]  05:05 PM
                             [**2164-10-22**]  11:44 PM
                             [**2164-10-23**]  04:04 AM
   WBC
   4.0
   5.0
   5.8
   Hct
   27.3
   24.4
   27.1
   24.3
   25.1
   Plt
   166
   205
   236
   Cr
   0.5
   0.6
   0.5
   TCO2
   37
   36
   36
   37
   39
   Glucose
   [**Telephone/Fax (3) 8745**]
   Other labs: PT / PTT / INR:12.7/24.1/1.1, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   55 F with history of severe COPD presents with R femur fracture s/p
   fixation and intubated for hypoxic hypercarbic respiratory distress.
   Attempted extubation on [**2164-10-20**], but required re-intubation within hours
   now planning for trach.
   # Respiratory failure: Did not tolerate trial of extubation.  Given
   presumed severe underlying COPD - will elect to trach tomorrow.  Cont
   40mg [**Hospital1 **] of SOluMedrol, cont to taper. Cont cefepime/cipro/vanc.  D/C
   vanc.
   # Labile Blood Pressures: hypertensive with agitation. hypotension
   resolved
   # Femur Fracture: ls/p ORIF
   # Anemia/thrombocytopenia: Hct stable
   #agitation: ativan prn
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2164-10-23**] 01:00 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-15**] 05:42 AM
   Arterial Line - [**2164-10-16**] 06:44 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2164-10-24 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -D/c'ed vancomycin
   -Switched IV steroids to PO prednisone daily
   -I/O goal one liter negative. gave 10mg IV lasix
   -spoke with family, who are on board with trach and PEG
   -OG replaced; tube feeds held at midnight for trach/PEG tomorrow (note,
   might get bumped to Thurs)
   -tired out on pressure support, switched back to AC
   -lost a line
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-23**] 08:01 AM
   Cefipime - [**2164-10-24**] 12:00 AM
   Ciprofloxacin - [**2164-10-24**] 12:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2164-10-23**] 08:00 PM
   Enoxaparin (Lovenox) - [**2164-10-23**] 08:37 PM
   Lorazepam (Ativan) - [**2164-10-23**] 08:38 PM
   Furosemide (Lasix) - [**2164-10-24**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-24**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.4
C (97.6
   HR: 67 (63 - 83) bpm
   BP: 122/59(80) {97/52(69) - 163/72(103)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.6 kg (admission): 51.3 kg
   Height: 72 Inch
    CVP: 4 (2 - 13)mmHg
   Total In:
                                                                  2,884 mL
                                                                    355 mL
   PO:
   TF:
                                                                  1,141 mL
   IVF:
                                                                  1,393 mL
                                                                    355 mL
   Blood products:
   Total out:
                                                                  3,028 mL
                                                                  1,725 mL
   Urine:
                                                                  3,028 mL
                                                                  1,725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -144 mL
                                                                 -1,370 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (0 - 500) mL
   Vt (Spontaneous): 419 (169 - 428) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 14 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.46/58/86/38/14
   Ve: 6.1 L/min
   PaO2 / FiO2: 246
   Physical Examination
   Gen: intubated, awake
   CV: RRR
   Resp: decreased b/l
   Abd: soft, NT
   Ext edema L>R
   Labs / Radiology
   222 K/uL
   7.2 g/dL
   80 mg/dL
   0.6 mg/dL
   38 mEq/L
   3.5 mEq/L
   20 mg/dL
   102 mEq/L
   145 mEq/L
   23.9 %
   4.9 K/uL
        [image002.jpg]
                             [**2164-10-21**]  12:53 PM
                             [**2164-10-21**]  03:14 PM
                             [**2164-10-22**]  03:00 AM
                             [**2164-10-22**]  03:14 AM
                             [**2164-10-22**]  05:05 PM
                             [**2164-10-22**]  11:44 PM
                             [**2164-10-23**]  04:04 AM
                             [**2164-10-23**]  03:24 PM
                             [**2164-10-24**]  04:42 AM
                             [**2164-10-24**]  05:09 AM
   WBC
   5.0
   5.8
   4.9
   Hct
   24.4
   27.1
   24.3
   25.1
   23.9
   Plt
   [**Telephone/Fax (3) 8764**]
   Cr
   0.6
   0.5
   0.6
   0.6
   TCO2
   36
   37
   39
   42
   Glucose
   153
   107
   97
   80
   Other labs: PT / PTT / INR:12.8/24.0/1.1, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Microbiology: blood cx pending NGTD
   sputum cx x2 negative
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ANXIETY
 HYPERTENSION, BENIGN
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 MALNUTRITION
 RESPIRATORY FAILURE, CHRONIC
 FRACTURE, OTHER
   55 F with history of severe COPD presents with R femur fracture s/p
   fixation and intubated for hypoxic hypercarbic respiratory distress.
   Attempted extubation on [**2164-10-20**], but required re-intubation within hours
   now planning for trach.
   .
   # Respiratory failure: etiology multifactorial - severe COPD, with
   significant volume repletion during hospitalization - markedly positive
   fluid balance for LOS.  Likely due to underlying lung disease plus
   volume overload, possible overlying infection. Had unsuccessful
   extubation on [**10-20**] and was reintubated secondary to hypoxia. Started on
   steroids.
   - Abx for possible VAP
 cefipime (day 7), cipro (day 6)
   -DC cefipime today and cipro tomorrow for full 7 day courses of all abx
   - switched back from psv to ac
   -plan for trach/peg today, patient and family aware.
   -restart tube feeds today if unable to fit on schedule.
   - Albuterol q2 PRN, ipratropium q6h PRN.
   -currently on pred 60 and slowly titrating down
 plan for 2 week
   taper.
   -continue to evaluate for fluid overload and use lasix 10 if looks
   overloaded (received 10 [**Hospital1 **] yesterday).
   -already 1 liter negative today
 plan to keep even for rest of day
   (remain at -1 L)
   .
   #Labile Blood Pressures: continuing to be fairly unstable - Blood
   pressures have consistently been reduced with increased sedation
   levels.  Blood pressures have been correlating closely with level
   ofsedation and analgesia. Was hypotensive requiring 3 pressors after
   intubation, but now off pressors.
   -have been giving lasix for elev BPs as has been mildly overloaded
   -will consider restart carvedilol
   -Ativan PRN for anxiety, agitation.
   .
   # Femur Fracture: likely secondary to osteoporosis. Patient was started
   on calcium and vit D.  Surgery reportedly went well, dressing appears
   clean.  Peri-op Ancef given.
   - f/u ortho surgery recs
 nothing new for now.  Will call to ask
   timing for staple removal.
   - continue lovenox x1month s/p femur fixation surgery
   .
   # Anemia/thrombocytopenia: unclear etiology, iron, B12 and folate sent.
   hct at [**Hospital1 **] [**7-24**] ago was 37. likely [**3-19**] bleeding into leg after femur
   fx.  Hct stable this AM
   - b12 and folate wnl; iron slightly low; can start iron PO if verify no
   infectious source
   - Have been trending daily CBC
 unclear pattern, but today's value
   lower, likely [**3-19**] phlebotomy.  Will re-check again in am.  Transfusion
   goal of 21-22
   - active T&S (reordered for tomorrow)
   .
   # ? CAD: pt appears to have h/o cad. on carvedilol and [**Month/Day (2) 120**] on
   admission. has also been on an ace in the past.
   - unclear rationale for [**Name (NI) **] - called PCP
[**Name Initial (PRE) **] office, given med list,
   but PCP on vacation this week.
   - restart home carvedilol when BPs stabilize
   - hold [**Name Initial (PRE) 120**] for now in setting of recent surgery, unclear
   indication.
   .
   #agitation: ativan prn
   # FEN: Needed multiple IVF boluses yesterday and currently positive.
   -Continue to diuresis as tolerated.
   -sodium 145 today
 will follow, increase free water if needed.
   - UOP > 30
   -will get trach/peg today
   -on tube feeds at goal (held for trach/peg)
   .
   # Prophylaxis: lovenox, famotidine
   .
    # Access: triple lumen R IJ, no A-line currently.
   .
    # Brother is health care proxy - communicating with him daily
   .
    # Full Code
   .
    # ICU today, has been screened for rehab placement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-15**] 05:42 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: spoke with brother yesterday.
   [**Name2 (NI) 156**] status: Full code
   Disposition:  ICU

2164-10-24 11:30:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, s/o orif for hip fracture
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   OG tube dislogdged and replaced
   24 Hour Events:
 ARTERIAL LINE - STOP [**2164-10-24**] 06:45 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-23**] 08:01 AM
   Cefipime - [**2164-10-24**] 12:00 AM
   Ciprofloxacin - [**2164-10-24**] 12:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2164-10-23**] 08:37 PM
   Lorazepam (Ativan) - [**2164-10-23**] 08:38 PM
   Furosemide (Lasix) - [**2164-10-24**] 03:00 AM
   Famotidine (Pepcid) - [**2164-10-24**] 08:30 AM
   Morphine Sulfate - [**2164-10-24**] 10:00 AM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-10-24**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98.1
   HR: 66 (62 - 83) bpm
   BP: 122/62(75) {95/51(62) - 142/64(79)} mmHg
   RR: 14 (11 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.3 kg (admission): 51.3 kg
   Height: 72 Inch
   CVP: 4 (2 - 13)mmHg
   Total In:
                                                                  2,884 mL
                                                                    684 mL
   PO:
   TF:
                                                                  1,141 mL
   IVF:
                                                                  1,393 mL
                                                                    584 mL
   Blood products:
   Total out:
                                                                  3,028 mL
                                                                  1,425 mL
   Urine:
                                                                  3,028 mL
                                                                  1,425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -144 mL
                                                                   -741 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (0 - 500) mL
   Vt (Spontaneous): 419 (356 - 419) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 12 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.46/58/86/38/14
   Ve: 6.1 L/min
   PaO2 / FiO2: 246
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.2 g/dL
   222 K/uL
   80 mg/dL
   0.6 mg/dL
   38 mEq/L
   3.5 mEq/L
   20 mg/dL
   102 mEq/L
   145 mEq/L
   23.9 %
   4.9 K/uL
        [image002.jpg]
                             [**2164-10-21**]  12:53 PM
                             [**2164-10-21**]  03:14 PM
                             [**2164-10-22**]  03:00 AM
                             [**2164-10-22**]  03:14 AM
                             [**2164-10-22**]  05:05 PM
                             [**2164-10-22**]  11:44 PM
                             [**2164-10-23**]  04:04 AM
                             [**2164-10-23**]  03:24 PM
                             [**2164-10-24**]  04:42 AM
                             [**2164-10-24**]  05:09 AM
   WBC
   5.0
   5.8
   4.9
   Hct
   24.4
   27.1
   24.3
   25.1
   23.9
   Plt
   [**Telephone/Fax (3) 8764**]
   Cr
   0.6
   0.5
   0.6
   0.6
   TCO2
   36
   37
   39
   42
   Glucose
   153
   107
   97
   80
   Other labs: PT / PTT / INR:12.8/24.0/1.1, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   55 F with history of severe COPD presents with R femur fracture s/p
   fixation and intubated for hypoxic hypercarbic respiratory distress.
   Attempted extubation on [**2164-10-20**], but required re-intubation within hours
   now planning for trach.
   # Respiratory failure: Trach and PEG today.  Steroids switched to
   prednisone - 2 week taper.  D/C cepfepime today.
   # Femur Fracture: s/p ORIF
   # Anemia/thrombocytopenia: Hct stable
   #agitation: ativan prn
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-15**] 05:42 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2164-10-25 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -pt accepted to [**Hospital1 **]
   -onschedule for trach/[**Hospital1 **] tomorrow at 3p. to get cefazolin 1g at 2p.
   per IP could go as soon as friday afternoon
   -should have staples out on tuesday [**9-29**] (2 weeks post op)
   -switched to pressure support overnight. FOr SBT in the am. If she
   tolerates well overnight and SBT goes well could try extubating again
   tomorrow prior to trach/[**Month/Year (2) **]
   -TBB even (aiming to stay ~1L neg.) gave lasix 10
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-23**] 08:01 AM
   Cefipime - [**2164-10-24**] 12:00 AM
   Ciprofloxacin - [**2164-10-24**] 11:47 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2164-10-24**] 10:00 AM
   Famotidine (Pepcid) - [**2164-10-24**] 08:00 PM
   Lorazepam (Ativan) - [**2164-10-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-25**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.6
C (96
   HR: 62 (62 - 79) bpm
   BP: 106/52(66) {93/49(61) - 142/82(89)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.3 kg (admission): 51.3 kg
   Height: 72 Inch
    CVP: 7 (-1 - 10)mmHg
   Total In:
                                                                  2,173 mL
                                                                    489 mL
   PO:
   TF:
                                                                    420 mL
                                                                    380 mL
   IVF:
                                                                  1,243 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                  2,005 mL
                                                                    475 mL
   Urine:
                                                                  2,005 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    168 mL
                                                                     14 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 432 (405 - 465) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 35%
   RSBI: 51
   PIP: 13 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: ///38/
   Ve: 6.1 L/min
   Physical Examination
   Gen: Awake, responds to questions
   CV: Regular
   Resp: decreased breath sounds throughout all breath sounds
   Abd: soft, NTND
   Ext: WWP
   Labs / Radiology
   271 K/uL
   7.8 g/dL
   105 mg/dL
   0.6 mg/dL
   38 mEq/L
   3.9 mEq/L
   19 mg/dL
   100 mEq/L
   140 mEq/L
   25.1 %
   6.4 K/uL
        [image002.jpg]
                             [**2164-10-21**]  03:14 PM
                             [**2164-10-22**]  03:00 AM
                             [**2164-10-22**]  03:14 AM
                             [**2164-10-22**]  05:05 PM
                             [**2164-10-22**]  11:44 PM
                             [**2164-10-23**]  04:04 AM
                             [**2164-10-23**]  03:24 PM
                             [**2164-10-24**]  04:42 AM
                             [**2164-10-24**]  05:09 AM
                             [**2164-10-25**]  03:15 AM
   WBC
   5.0
   5.8
   4.9
   6.4
   Hct
   24.4
   27.1
   24.3
   25.1
   23.9
   25.1
   Plt
   [**Telephone/Fax (3) 8781**]71
   Cr
   0.6
   0.5
   0.6
   0.6
   0.6
   TCO2
   37
   39
   42
   Glucose
   153
   107
   97
   80
   105
   Other labs: PT / PTT / INR:12.5/22.3/1.1, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ANXIETY
 HYPERTENSION, BENIGN
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 MALNUTRITION
 RESPIRATORY FAILURE, CHRONIC
 FRACTURE, OTHER
   55 F with history of severe COPD presents with R femur fracture s/p
   fixation and intubated for hypoxic hypercarbic respiratory distress.
   Attempted extubation on [**2164-10-20**], but required re-intubation within hours
   now planning for trach.
   .
   # Respiratory failure: etiology multifactorial - severe COPD, with
   significant volume repletion during hospitalization - markedly positive
   fluid balance for LOS.  Likely due to underlying lung disease plus
   volume overload, possible overlying infection. Had unsuccessful
   extubation on [**10-20**] and was reintubated secondary to hypoxia. Started on
   steroids.
   - Abx for possible VAP
 only Cipro currently
 today is last day.
   -full course abx completed today.
   - trial of PSV overnight
 very low O2 sat on early morning ABG.
   -plan for trach/[**Month/Day (1) **] today
 on schedule at 3 pm, patient and family
   aware.
   - Albuterol q2 PRN, ipratropium q6h PRN.
   -currently on pred 60 and slowly titrating down
 plan for 2 week
   taper.
   -continue to evaluate for fluid overload and use lasix 10 if looks
   overloaded.
   -ran completely even yesterday and this morning
 look to keep even to
   slightly negative today
 Lasix PRN, otherwise autodiuresing.
   .
   #Labile Blood Pressures: continuing to be fairly unstable - Blood
   pressures have consistently been reduced with increased sedation
   levels.  Blood pressures have been correlating closely with level
   ofsedation and analgesia. Was hypotensive requiring 3 pressors after
   intubation, but now off pressors.
   -have been giving lasix for elev BPs as has been mildly overloaded
   -will plan to restart home blood pressure regimen after trach/[**Month/Day (1) **] and
   extubation.
   -Ativan PRN for anxiety, agitation.
   .
   # Femur Fracture: likely secondary to osteoporosis. Patient was started
   on calcium and vit D.  Surgery reportedly went well, dressing appears
   clean.  Peri-op Ancef given.
   - f/u ortho surgery recs
 nothing new for now.  Plan for staple
   removal at 2 weeks post-op.
   - continue lovenox x1month s/p femur fixation surgery
   .
   # Anemia/thrombocytopenia: unclear etiology, iron, B12 and folate sent.
   hct at [**Hospital1 **] [**7-24**] ago was 37. likely [**3-19**] bleeding into leg after femur
   fx.  Hct stable this AM
   - b12 and folate wnl; iron slightly low; can start iron PO if verify no
   infectious source
   - Have been trending daily CBC
 remaining stable.  Continue daily
   CBC
s monitor for signs of bleeding.
   - active T&S
   .
   # ? CAD: pt appears to have h/o cad. on carvedilol and [**Month/Day (2) 120**] on
   admission. has also been on an ace in the past.
   - unclear rationale for [**Name (NI) **] - called PCP
[**Name Initial (PRE) **] office, given med list,
   but PCP on vacation this week.
   - restart home carvedilol when BPs stabilize
   - hold [**Name Initial (PRE) 120**] for now in setting of recent surgery, unclear
   indication.
   .
   #agitation: ativan prn
   # FEN: Even yesterday, though likely still overall volume overloaded.
   -Continue to diuresis as tolerated.
   -sodium and potassium WNL today
 continue to follow and replete/adjust
   as necessary.
   - keep UOP > 30
   -will get trach/[**Name Initial (PRE) **] today
   - tube feeds at goal (held for trach/[**Name Initial (PRE) **])
   .
   # Prophylaxis: lovenox, famotidine
   .
    # Access: triple lumen R IJ, no A-line currently.
   .
    # Brother is health care proxy - communicating with him daily
   .
    # Full Code
   .
    # ICU today, has been screened for rehab placement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-15**] 05:42 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2164-10-25 10:42:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, s/p ORIF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Did not trach and PEG yesterday - on schedule for today
   24 Hour Events:
   SBT this - AM using accessory muscles.  Also required more support to
   PSV 8/5 after bowel movement
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-23**] 08:01 AM
   Cefipime - [**2164-10-24**] 12:00 AM
   Ciprofloxacin - [**2164-10-24**] 11:47 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2164-10-25**] 12:00 AM
   Famotidine (Pepcid) - [**2164-10-25**] 08:00 AM
   Other medications:
   pre ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-10-25**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.8
C (96.5
   HR: 64 (62 - 79) bpm
   BP: 128/67(81) {93/49(55) - 138/82(89)} mmHg
   RR: 15 (14 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 51.3 kg
   Height: 72 Inch
   CVP: 2 (-1 - 10)mmHg
   Total In:
                                                                  2,173 mL
                                                                    701 mL
   PO:
   TF:
                                                                    420 mL
                                                                    380 mL
   IVF:
                                                                  1,243 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  2,005 mL
                                                                  1,495 mL
   Urine:
                                                                  2,005 mL
                                                                  1,495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    168 mL
                                                                   -794 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 502 (405 - 502) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 51
   PIP: 6 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: ///38/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   but diminished)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   271 K/uL
   105 mg/dL
   0.6 mg/dL
   38 mEq/L
   3.9 mEq/L
   19 mg/dL
   100 mEq/L
   140 mEq/L
   25.1 %
   6.4 K/uL
        [image002.jpg]
                             [**2164-10-21**]  03:14 PM
                             [**2164-10-22**]  03:00 AM
                             [**2164-10-22**]  03:14 AM
                             [**2164-10-22**]  05:05 PM
                             [**2164-10-22**]  11:44 PM
                             [**2164-10-23**]  04:04 AM
                             [**2164-10-23**]  03:24 PM
                             [**2164-10-24**]  04:42 AM
                             [**2164-10-24**]  05:09 AM
                             [**2164-10-25**]  03:15 AM
   WBC
   5.0
   5.8
   4.9
   6.4
   Hct
   24.4
   27.1
   24.3
   25.1
   23.9
   25.1
   Plt
   [**Telephone/Fax (3) 8781**]71
   Cr
   0.6
   0.5
   0.6
   0.6
   0.6
   TCO2
   37
   39
   42
   Glucose
   153
   107
   97
   80
   105
   Other labs: PT / PTT / INR:12.5/22.3/1.1, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   55 F with history of severe COPD presents with R femur fracture s/p
   fixation and intubated for hypoxic hypercarbic respiratory distress.
   Attempted extubation on [**2164-10-20**], but required re-intubation within hours
   now planning for trach.
   # Respiratory failure: Trach and PEG today.  Cont prednisone taper over
   2 weeks.  Will try for some mild diuresis --> looks slightly more
   volume overloaded on CXR today.  D/C cipro.
   # Femur Fracture: s/p ORIF
   # Anemia/thrombocytopenia: Hct stable
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-15**] 05:42 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2164-10-26 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PEG INSERTION - At [**2164-10-25**] 03:40 PM
   -Fluid balance negative 1 L by noon, without diuresis.
   -IP came by for trach/PEG, however anesthesia could not make it so they
   placed the PEG only.  Trach placement planned for Friday at 2 pm.
   -Discussed with IP after PEG placement - OK to use now for meds, but
   will hold tube feeds until trach placement on Friday.
   -Also need to hold lovenox tomorrow morning in advance of trach
   placement.  LOVENOX DC-ED TODAY to ensure it is not given tomorrow
   morning (it was given this morning), will re-start after procedure.
   -Spoke with sister in law today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-23**] 08:01 AM
   Cefipime - [**2164-10-24**] 12:00 AM
   Ciprofloxacin - [**2164-10-24**] 11:47 PM
   Cefazolin - [**2164-10-25**] 02:30 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2164-10-25**] 08:00 AM
   Propofol - [**2164-10-25**] 03:50 PM
   Midazolam (Versed) - [**2164-10-25**] 04:00 PM
   Fentanyl - [**2164-10-25**] 04:15 PM
   Lorazepam (Ativan) - [**2164-10-25**] 11:48 PM
   Morphine Sulfate - [**2164-10-26**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-26**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.5
   HR: 64 (61 - 76) bpm
   BP: 146/69(77) {93/51(55) - 157/93(115)} mmHg
   RR: 13 (11 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 51.3 kg
   Height: 72 Inch
    CVP: 4 (0 - 12)mmHg
   Total In:
                                                                    937 mL
                                                                     32 mL
   PO:
   TF:
                                                                    380 mL
   IVF:
                                                                    457 mL
                                                                     32 mL
   Blood products:
   Total out:
                                                                  2,315 mL
                                                                    120 mL
   Urine:
                                                                  2,315 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,378 mL
                                                                    -88 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 481 (428 - 502) mL
   PS : 8 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///36/
   Ve: 5.3 L/min
   Physical Examination
   Gen: intubated, responds appropriately to commands
   CV: RRR
   Resp: decreased breath sounds b/l
   Abd: soft, nt
   Ext: peripheral edema R>L
   Labs / Radiology
   342 K/uL
   8.4 g/dL
   87 mg/dL
   0.6 mg/dL
   36 mEq/L
   3.9 mEq/L
   18 mg/dL
   100 mEq/L
   140 mEq/L
   26.4 %
   8.7 K/uL
        [image002.jpg]
                             [**2164-10-22**]  03:00 AM
                             [**2164-10-22**]  03:14 AM
                             [**2164-10-22**]  05:05 PM
                             [**2164-10-22**]  11:44 PM
                             [**2164-10-23**]  04:04 AM
                             [**2164-10-23**]  03:24 PM
                             [**2164-10-24**]  04:42 AM
                             [**2164-10-24**]  05:09 AM
                             [**2164-10-25**]  03:15 AM
                             [**2164-10-26**]  03:49 AM
   WBC
   5.0
   5.8
   4.9
   6.4
   8.7
   Hct
   24.4
   27.1
   24.3
   25.1
   23.9
   25.1
   26.4
   Plt
   [**Telephone/Fax (3) 8781**]71
   342
   Cr
   0.6
   0.5
   0.6
   0.6
   0.6
   0.6
   TCO2
   39
   42
   Glucose
   153
   107
   97
   80
   105
   87
   Other labs: PT / PTT / INR:12.5/22.3/1.1, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Imaging: no cxr this am
   Microbiology: all negative (finalized)
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ANXIETY
 HYPERTENSION, BENIGN
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 MALNUTRITION
 RESPIRATORY FAILURE, CHRONIC
 FRACTURE, OTHER
   55 F with history of severe COPD presents with R femur fracture s/p
   fixation and intubated for hypoxic hypercarbic respiratory distress.
   Attempted extubation on [**2164-10-20**], but required re-intubation within hours
   now planning for trach.
   .
   # Respiratory failure: etiology multifactorial - severe COPD, with
   significant volume repletion during hospitalization - markedly positive
   fluid balance for LOS.  Likely due to underlying lung disease plus
   volume overload, possible overlying infection. Had unsuccessful
   extubation on [**10-20**] and was reintubated secondary to hypoxia. Started on
   steroids.
   -full course abx completed today, all cx neg.
   - trial of PSV overnight
 very low O2 sat on early morning ABG.
   -got peg yesterday, plan for trach at 2pm today
   - Albuterol q2 PRN, ipratropium q6h PRN.
   -currently on pred 60 and slowly titrating down
 plan for 2 week
   taper.
   -continue to evaluate for fluid overload and use lasix 10 if looks
   overloaded, seems to be autodiuresing
   currently.
   .
   #Labile Blood Pressures: continuing to be fairly unstable - Blood
   pressures have consistently been reduced with increased sedation
   levels.  Blood pressures have been correlating closely with level of
   sedation and analgesia. Was hypotensive requiring 3 pressors after
   intubation, but now off pressors and becoming more hypertensive.
   -will plan to restart home blood pressure regimen after trach/peg and
   extubation.
   -Ativan PRN for anxiety, agitation.
   .
   # Femur Fracture: likely secondary to osteoporosis. Patient was started
   on calcium and vit D.  Surgery reportedly went well, dressing appears
   clean.  Peri-op Ancef given.
   - f/u ortho surgery recs
 nothing new for now.  Plan for staple
   removal at 2 weeks post-op.
   - continue lovenox x1month s/p femur fixation surgery
   .
   # Anemia/thrombocytopenia: unclear etiology, iron, B12 and folate sent.
   hct at [**Hospital1 **] [**7-24**] ago was 37. likely [**3-19**] bleeding into leg after femur
   fx.  Hct stable this AM
   - b12 and folate wnl; iron slightly low; can start iron PO if verify no
   infectious source
   - Have been trending daily CBC
 remaining stable.  Continue daily
   CBC
s monitor for signs of bleeding.
   - active T&S
   .
   # ? CAD: pt appears to have h/o cad. on carvedilol and [**Month/Day (2) 120**] on
   admission. has also been on an ace in the past.
   - unclear rationale for [**Name (NI) **] - called PCP
[**Name Initial (PRE) **] office, given med list,
   but PCP on vacation this week.
   - restart home carvedilol when BPs stabilize, or could consider ace in
   setting of severe copd, could discuss c pcp if back from vacation
   - hold [**Name Initial (PRE) 120**] for now in setting of recent surgery, unclear
   indication.  Will not be discharged on [**Name Initial (PRE) 120**].
   .
   #agitation: ativan prn
   # FEN: seems to be autodiuresing,1 liter neg s lasix yesterday.
   -sodium and potassium WNL today
 continue to follow and replete/adjust
   as necessary.
   - keep UOP > 30
   -will get trach today
   - holding tube feeds until after trach placement
   .
   # Prophylaxis: lovenox held today for trach. need to restart lovenox
   tonight after trach, famotidine
   .
    # Access: triple lumen R IJ, no A-line currently. Will plan to pull IJ
   after after trach placement
   .
    # Brother is health care proxy - communicating with him daily
   .
    # Full Code
   .
    # ICU today, has been screened for rehab placement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-15**] 05:42 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-10-26 10:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, hip fracture
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No trach yesterday because of anesthesia availability - on schedule for
   today
   24 Hour Events:
 [** 1023**] INSERTION - At [**2164-10-25**] 03:40 PM
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2164-10-24**] 12:00 AM
   Ciprofloxacin - [**2164-10-24**] 11:47 PM
   Cefazolin - [**2164-10-25**] 02:30 PM
   Infusions:
   Other ICU medications:
   Propofol - [**2164-10-25**] 03:50 PM
   Midazolam (Versed) - [**2164-10-25**] 04:00 PM
   Fentanyl - [**2164-10-25**] 04:15 PM
   Lorazepam (Ativan) - [**2164-10-25**] 11:48 PM
   Morphine Sulfate - [**2164-10-26**] 07:30 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: [**Year (4 digits) 1023**]
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-10-26**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 64 (61 - 78) bpm
   BP: 144/65(80) {93/51(60) - 157/93(115)} mmHg
   RR: 9 (9 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.7 kg (admission): 51.3 kg
   Height: 72 Inch
   CVP: 4 (3 - 12)mmHg
   Total In:
                                                                    937 mL
                                                                    193 mL
   PO:
   TF:
                                                                    380 mL
   IVF:
                                                                    457 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                  2,315 mL
                                                                    813 mL
   Urine:
                                                                  2,315 mL
                                                                    613 mL
   NG:
   Stool:
   Drains:
                                                                    200 mL
   Balance:
                                                                 -1,378 mL
                                                                   -620 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 403 (403 - 481) mL
   PS : 8 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: ///36/
   Ve: 5.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   342 K/uL
   87 mg/dL
   0.6 mg/dL
   36 mEq/L
   3.8 mEq/L
   18 mg/dL
   99 mEq/L
   140 mEq/L
   26.4 %
   8.7 K/uL
        [image002.jpg]
                             [**2164-10-22**]  03:00 AM
                             [**2164-10-22**]  03:14 AM
                             [**2164-10-22**]  05:05 PM
                             [**2164-10-22**]  11:44 PM
                             [**2164-10-23**]  04:04 AM
                             [**2164-10-23**]  03:24 PM
                             [**2164-10-24**]  04:42 AM
                             [**2164-10-24**]  05:09 AM
                             [**2164-10-25**]  03:15 AM
                             [**2164-10-26**]  03:49 AM
   WBC
   5.0
   5.8
   4.9
   6.4
   8.7
   Hct
   24.4
   27.1
   24.3
   25.1
   23.9
   25.1
   26.4
   Plt
   [**Telephone/Fax (3) 8781**]71
   342
   Cr
   0.6
   0.5
   0.6
   0.6
   0.6
   0.6
   TCO2
   39
   42
   Glucose
   153
   107
   97
   80
   105
   87
   Other labs: PT / PTT / INR:12.5/22.3/1.1, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ANXIETY
 HYPERTENSION, BENIGN
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 MALNUTRITION
 RESPIRATORY FAILURE, CHRONIC
 FRACTURE, OTHER
   Assessment and Plan
   55 F with history of severe COPD presents with R femur fracture s/p
   fixation and intubated for hypoxic hypercarbic respiratory distress.
   Attempted extubation on [**2164-10-20**], but required re-intubation within hours
   now planning for trach.
   # Respiratory failure: Trach [**Last Name (LF) 8806**], [**First Name3 (LF) 1023**] done.  Prednisone taper.
   # Femur Fracture: s/p ORIF
   # Anemia/thrombocytopenia: Hct stable
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-15**] 05:42 AM
   20 Gauge - [**2164-10-26**] 08:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2164-10-27 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2164-10-26**] 07:00 PM
 PERCUTANEOUS TRACHEOSTOMY - At [**2164-10-26**] 08:00 PM
   -trach went well today
   -tube feeds restarted
   -lovenox restarted
   -did not restart outpatient BP meds today
   -IJ pulled
   -spoke with brother, who was unaware that patient is stable for
   discharge this weekend. He is still in the process of looking at
   facilities for her. he will be in tomorrow AM to speak with the team.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2164-10-24**] 11:47 PM
   Cefazolin - [**2164-10-25**] 02:30 PM
   Infusions:
   Other ICU medications:
   Vecuronium - [**2164-10-26**] 02:37 PM
   Fentanyl - [**2164-10-26**] 03:37 PM
   Morphine Sulfate - [**2164-10-26**] 08:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-27**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.7
C (96.3
   HR: 59 (59 - 83) bpm
   BP: 134/61(78) {81/43(52) - 164/87(99)} mmHg
   RR: 13 (8 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 54.7 kg (admission): 51.3 kg
   Height: 72 Inch
                  Total In:
                                                                    578 mL
                                                                    199 mL
   PO:
                  TF:
                                                                    117 mL
                                                                    199 mL
   IVF:
                                                                    161 mL
   Blood products:
   Total out:
                                                                  1,373 mL
                                                                     95 mL
   Urine:
                                                                  1,113 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
                                                                    260 mL
   Balance:
                                                                   -795 mL
                                                                    104 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 449 (403 - 778) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 30
   PIP: 13 cmH2O
   SpO2: 96%
   ABG: ///38/
   Ve: 4.9 L/min
   Physical Examination
   Gen: calm, NAD, cachectic, trach in place
   CV: RRR
   Resp: decreased b/l
   Abd: soft, nt
   Ext: 1+ pitting edema b/l in feet, 2+ DP pulse b/l
   Labs / Radiology
   324 K/uL
   7.2 g/dL
   88 mg/dL
   0.6 mg/dL
   38 mEq/L
   4.4 mEq/L
   19 mg/dL
   101 mEq/L
   141 mEq/L
   23.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2164-10-22**]  03:14 AM
                             [**2164-10-22**]  05:05 PM
                             [**2164-10-22**]  11:44 PM
                             [**2164-10-23**]  04:04 AM
                             [**2164-10-23**]  03:24 PM
                             [**2164-10-24**]  04:42 AM
                             [**2164-10-24**]  05:09 AM
                             [**2164-10-25**]  03:15 AM
                             [**2164-10-26**]  03:49 AM
                             [**2164-10-27**]  03:04 AM
   WBC
   5.8
   4.9
   6.4
   8.7
   6.4
   Hct
   27.1
   24.3
   25.1
   23.9
   25.1
   26.4
   23.5
   Plt
   [**Telephone/Fax (3) 8828**]42
   324
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   0.6
   TCO2
   39
   42
   Glucose
   107
   97
   80
   105
   87
   88
   Other labs: PT / PTT / INR:12.5/22.3/1.1, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ANXIETY
 HYPERTENSION, BENIGN
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 MALNUTRITION
 RESPIRATORY FAILURE, CHRONIC
 FRACTURE, OTHER
   55 F with history of severe COPD presents with R femur fracture s/p
   fixation and intubated for hypoxic hypercarbic respiratory distress.
   Attempted extubation on [**2164-10-20**], but required re-intubation within hours
   now planning for trach.
   .
   # Respiratory failure: etiology multifactorial - severe COPD, with
   significant volume repletion during hospitalization - markedly positive
   fluid balance for LOS.  Likely due to underlying lung disease plus
   volume overload, possible overlying infection. Had unsuccessful
   extubation on [**10-20**] and was reintubated secondary to hypoxia. Started on
   steroids.
   -full course abx completed today, all cx neg.
   -got trached yesterday
   - Albuterol q2 PRN, ipratropium q6h PRN.
   -currently on pred 60 and slowly titrating down
 plan for 2 week
   taper.
   -continue to evaluate for fluid overload and use lasix 10 if looks
   overloaded, seems to be autodiuresing
   currently.
   .
   #Labile Blood Pressures: continuing to be fairly unstable - Blood
   pressures have consistently been reduced with increased sedation
   levels.  Blood pressures have been correlating closely with level of
   sedation and analgesia. Was hypotensive requiring 3 pressors after
   intubation, but now off pressors and becoming more hypertensive.
   -consider restart a bp med, had been on carvedilol at home but perhaps
   would benefit from switching to an acei given her severe copd
   -Ativan PRN for anxiety, agitation.
   .
   # Femur Fracture: likely secondary to osteoporosis. Patient was started
   on calcium and vit D.  Surgery reportedly went well, dressing appears
   clean.  Peri-op Ancef given.
   - f/u ortho surgery recs
 nothing new for now.  Plan for staple
   removal at 2 weeks post-op ([**9-29**]).
   - continue lovenox x1month s/p femur fixation surgery
   .
   # Anemia/thrombocytopenia: unclear etiology, iron, B12 and folate sent.
   hct at [**Hospital1 **] [**7-24**] ago was 37. likely [**3-19**] bleeding into leg after femur
   fx.  Hct have been stable
   -started po iron
   - b12 and folate wnl
   .
   # ? CAD: pt appears to have h/o cad. on carvedilol and [**Month/Day (2) 120**] on
   admission. has also been on an ace in the past.
   - unclear rationale for [**Name (NI) **] - called PCP
[**Name Initial (PRE) **] office, given med list,
   but PCP on vacation this week.
   - restart home carvedilol when BPs stabilize, or could consider ace in
   setting of severe copd, could discuss c pcp if back from vacation
   .
   #agitation: ativan prn
   # FEN: seems to be autodiuresing.
   -sodium and potassium WNL today
 continue to follow and replete/adjust
   as necessary.
   - keep UOP > 30
   -tube feeds restarted s/p trach.
   # Prophylaxis: lovenox held today for trach. need to restart lovenox
   tonight after trach, lansoprazole
   .
    # Access: triple lumen R IJ, no A-line currently. Will plan to pull IJ
   after after trach placement
   .
    # Brother is health care proxy - communicating with him daily
   .
    # Full Code
   .
    # ICU today, has been screened for rehab placement.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2164-10-27**] 02:34 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-10-26**] 08:30 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-10-27 09:57:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Hip fracture
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Trach yesterday
   24 Hour Events:
 MULTI LUMEN - STOP [**2164-10-26**] 07:00 PM
 PERCUTANEOUS TRACHEOSTOMY - At [**2164-10-26**] 08:00 PM
   History obtained from Patient, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2164-10-24**] 11:47 PM
   Cefazolin - [**2164-10-25**] 02:30 PM
   Infusions:
   Other ICU medications:
   Vecuronium - [**2164-10-26**] 02:37 PM
   Fentanyl - [**2164-10-26**] 03:37 PM
   Morphine Sulfate - [**2164-10-26**] 08:23 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2164-10-27**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.5
   HR: 66 (59 - 83) bpm
   BP: 129/58(75) {81/43(52) - 164/87(99)} mmHg
   RR: 13 (8 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.7 kg (admission): 51.3 kg
   Height: 72 Inch
                  Total In:
                                                                    578 mL
                                                                    373 mL
   PO:
                  TF:
                                                                    117 mL
                                                                    283 mL
   IVF:
                                                                    161 mL
   Blood products:
   Total out:
                                                                  1,373 mL
                                                                    145 mL
   Urine:
                                                                  1,113 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
                                                                    260 mL
   Balance:
                                                                   -795 mL
                                                                    228 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 531 (449 - 778) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 30
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: ///38/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   324 K/uL
   88 mg/dL
   0.6 mg/dL
   38 mEq/L
   4.4 mEq/L
   19 mg/dL
   101 mEq/L
   141 mEq/L
   23.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2164-10-22**]  03:14 AM
                             [**2164-10-22**]  05:05 PM
                             [**2164-10-22**]  11:44 PM
                             [**2164-10-23**]  04:04 AM
                             [**2164-10-23**]  03:24 PM
                             [**2164-10-24**]  04:42 AM
                             [**2164-10-24**]  05:09 AM
                             [**2164-10-25**]  03:15 AM
                             [**2164-10-26**]  03:49 AM
                             [**2164-10-27**]  03:04 AM
   WBC
   5.8
   4.9
   6.4
   8.7
   6.4
   Hct
   27.1
   24.3
   25.1
   23.9
   25.1
   26.4
   23.5
   Plt
   [**Telephone/Fax (3) 8828**]42
   324
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   0.6
   TCO2
   39
   42
   Glucose
   107
   97
   80
   105
   87
   88
   Other labs: PT / PTT / INR:12.5/22.3/1.1, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:13/22, Alk Phos / T Bili:47/0.2,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:177 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ANXIETY
 HYPERTENSION, BENIGN
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 MALNUTRITION
 RESPIRATORY FAILURE, CHRONIC
 FRACTURE, OTHER
   55 F with history of severe COPD presents with R femur fracture s/p
   fixation and intubated for hypoxic hypercarbic respiratory distress.
   Attempted extubation on [**2164-10-20**], but required re-intubation within hours
   now planning for trach.
   # Respiratory failure: s/p tach and PEG.  Prednisone taper.  [**Month (only) 8**] be
   able to trach mask for periods in next 1-2 days as trach heals
   # Femur Fracture: s/p ORIF. Lovenox
   # Anemia/thrombocytopenia: Hct stable
    Disposition: to rehab when bed available
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-10-26**] 08:30 AM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Comments: now trached and off sedation
   Communication:  Comments: Communication by team with pt's brother
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill